2161-12-26 08:38:00 Physician Attending Progress Note
Chief Complaint: COPD exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hydrated overnight, still tachy
   Placed on Bipap overnight
   RSV +
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-12-26**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-26**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 109 (101 - 115) bpm
   BP: 93/72(76) {86/42(53) - 148/77(91)} mmHg
   RR: 26 (20 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    567 mL
                                                                    561 mL
   PO:
             TF:
   IVF:
                                                                    567 mL
                                                                    561 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    870 mL
   Urine:
                                                                  1,225 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -658 mL
                                                                   -309 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (424 - 500) mL
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 98%
   ABG: ///26/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: mm moist
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : mid inspitory, Wheezes : polyphonic diffuse
   bilateral, Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, no edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   279 K/uL
   97 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   17 mg/dL
   109 mEq/L
   143 mEq/L
   35.7 %
   16.3 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
   WBC
   16.3
   Hct
   35.7
   Plt
   279
   Cr
   0.6
   Glucose
   97
   Other labs: PT / PTT / INR:13.3/41.3/1.1, D-dimer:402 ng/mL, Ca++:7.8
   mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   RSV +
   Spu cx: 3+ GPR, 2+ GPC, 1+ GNR, [**9-12**] WBC, < 10 epith
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   74 y/o F with hx of CAD and COPD with exacerbation. RSV +  with
   multiormgs in sputum.
   Abx: Levoflox
   Standing nebs
   High dose steroids with Bactrim ppx chroinically
   O2 supplementation, prn bipap
   f/u sputum cx
   Acapella
   Leukocytosis: ? stress/steroid induced..follow
   CAD: cont ASA, not on beta blocker. Watch HR.
   ICU Care
   Nutrition: po
   Comments: po liquids
   Glycemic Control: Regular insulin sliding scale
   Lines / Intubation:
   20 Gauge - [**2161-12-25**] 03:12 M
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent: 35 min
   Patient is critically ill

2161-12-26 09:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Went on BiPAP per patient
s request overnight x 2. Tolerated well and
   did better each time after coming off.
   Received 2L NS
   Allergies:
   Albuterol
   uncomfortable tachycardia
   Last dose of Antibiotics: levofloxacin
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-12-26**] 04:15 AM
   Other medications:
   Alendronate
   Verapamil
   Lisinopril
   Xopenex nebs
   Ipratropium nebs
   Aspirin
   CaCO3
   Omeprazole
   Atorvastatin
   Methylpred 100 q8
   Singulair
   Bactrim ppx
   Insulin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-26**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 101 (101 - 115) bpm
   BP: 111/60(72) {86/42(53) - 148/77(91)} mmHg
   RR: 23 (20 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    567 mL
                                                                    561 mL
   PO:
             TF:
   IVF:
                                                                    567 mL
                                                                    561 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    870 mL
   Urine:
                                                                  1,225 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -658 mL
                                                                   -309 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (424 - 500) mL
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 99%
   ABG: ///26/
   Ve: 8.9 L/min
   Physical Examination
   General: Alert, oriented, mild respiratory distress. Can almost finish
   complete sentences,  better today than yesterday
   HEENT: Sclerae anicteric, MM mildly dry, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Poor air movement throughout, significantly prolonged expiratory
   phase with scattered rhonchi, and upper airway congestion
   CV: tachycardic, normal S1 + S2, distant
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema;
   scattered ecchymoses
   Labs / Radiology
   279 K/uL
   11.4 g/dL
   97 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   17 mg/dL
   109 mEq/L
   143 mEq/L
   35.7 %
   16.3 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
   WBC
   16.3
   Hct
   35.7
   Plt
   279
   Cr
   0.6
   Glucose
   97
   Other labs: PT / PTT / INR:13.3/41.3/1.1, D-dimer:402 ng/mL, Ca++:7.8
   mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   MICRO:
Rapid Respiratory Viral Antigen Test (Final [**2161-12-25**]):
      Positive for Respiratory Syncytial viral antigen.
      SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B AND
      RSV.
   Sputum Culture
 likely respiratory flora
   Imaging: CXR [**2161-12-25**]
   FINDINGS: AP semi-upright view of the chest was obtained. The
   cardiomediastinal silhouette is stable in size. The aorta is calcified.
   The
   lungs are clear bilaterally without evidence of focal opacification.
   There
   are no pleural effusions or pneumothorax identified. The osseous
   structures
   are intact. There are degenerative changes of the thoracic spine.
   IMPRESSION:
   No evidence of acute intrathoracic process.
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   Assessment and Plan: 74 yo F with marked COPD admitted with COPD
   exacerbation.
   .
   # COPD exacerbation - +RSV on viral culture. No obvious infiltrate.
   Will continue on abx  however given her chronic steroids and risk to
   develop superimposed bacterial infection.
   - q2-4 hour standing xopenex and atrovent nebs
   - high dose steroids, given 20mg chronic prednisone for burst and taper
   back to 20mg
   - continue levoflox for possible CA pna x 5 days
   - sputum for culture
   - pulmonary toilet
   - acapella
   .
   # Tachycardia - likely in the setting of respiratory distress. Very low
   likelihood for PE, given negative d-dimer, good reason for dyspnea,
   gradual onset of symptoms, no evidence of EKG changes. Gave IVF
   yesterday, but no real response. ?respiratory distress as a
   contributor. Continue rate control as BP tolerates today.
   - monitor
   .
   # Hypotension - patient became hypotensive in ED with the addition of
   BiPAP. Suspicion is for preload dependence, likely secondary to
   hypovolemia. Currently maintaining pressures and tolerated BiPAP on two
   occasions overnight.
   .
   # Leukocytosis - likely secondary to steroids, but diff is slightly
   left shifted which argues for continuing abx. Trend.
   .
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   continue aspirin. Not on beta blockade, continue acei as tolerated.
   .
   # Hypertension: Continue verapamil and acei as BP tolerates in AM.
   .
   # FEN: IVF, replete electrolytes, sips for now, can advance diet as
   tolerated with aspiration precautions
   .
   # Prophylaxis: Subcutaneous heparin; droplet precautions. Aspiration
   precautions. Bactrim ppx.
   .
   # Access: peripherals
   .
   # Code: full code, ICU consent in chart.
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition: ADAT
   Glycemic Control:  insulin ss
   Lines:
   20 Gauge - [**2161-12-25**] 03:12 PM
   Prophylaxis:
   DVT: heparin subcut
   Stress ulcer: ppi
   VAP:  aspiration prec
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ICU for today

2161-12-27 07:24:00 Physician Resident Progress Note
Chief Complaint: RSV
   24 Hour Events:
   Pt did well for the course of the day off BIPAP, required it to be
   restarted this am for dyspnea
   Low urine output this am with poor po intake, given IVF bolus this am
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-12-26**] 11:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-27**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 122 (84 - 122) bpm
   BP: 133/67(99) {93/49(66) - 164/72(99)} mmHg
   RR: 31 (18 - 39) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    686 mL
                                                                     74 mL
   PO:
             TF:
   IVF:
                                                                    686 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    240 mL
   Urine:
                                                                  1,340 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -654 mL
                                                                   -166 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (360 - 500) mL
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 90%
   ABG: ///27/
   Ve: 12.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   361 K/uL
   12.1 g/dL
   93 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   26 mg/dL
   107 mEq/L
   144 mEq/L
   36.1 %
   19.9 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
   WBC
   16.3
   19.9
   Hct
   35.7
   36.1
   Plt
   279
   361
   Cr
   0.6
   0.6
   Glucose
   97
   93
   Other labs: PT / PTT / INR:12.6/45.0/1.1, D-dimer:402 ng/mL, Ca++:8.5
   mg/dL, Mg++:2.7 mg/dL, PO4:2.3 mg/dL
   Microbiology: [**2161-12-25**] 9:51 pm SPUTUM      Source: Expectorated.
      GRAM STAIN (Final [**2161-12-25**]):
         [**9-12**] PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         MODERATE GROWTH OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   Assessment and Plan: 74 yo F with marked COPD admitted with COPD
   exacerbation.
   .
   # COPD exacerbation - +RSV on viral culture. No obvious infiltrate.
   Will continue on abx  however given her chronic steroids and risk to
   develop superimposed bacterial infection.
   - q2-4 hour standing xopenex and atrovent nebs
   - high dose steroids, given 20mg chronic prednisone for burst and taper
   back to 20mg
   - continue levoflox for possible CA pna x 5 days
   - sputum for culture
   - pulmonary toilet
   - acapella
   .
   # Tachycardia - likely in the setting of respiratory distress. Very low
   likelihood for PE, given negative d-dimer, good reason for dyspnea,
   gradual onset of symptoms, no evidence of EKG changes. Gave IVF
   yesterday, but no real response. ?respiratory distress as a
   contributor. Continue rate control as BP tolerates today.
   - monitor
   .
   # Hypotension - patient became hypotensive in ED with the addition of
   BiPAP. Suspicion is for preload dependence, likely secondary to
   hypovolemia. Currently maintaining pressures and tolerated BiPAP on two
   occasions overnight.
   .
   # Leukocytosis - likely secondary to steroids, but diff is slightly
   left shifted which argues for continuing abx. Trend.
   .
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   continue aspirin. Not on beta blockade, continue acei as tolerated.
   .
   # Hypertension: Continue verapamil and acei as BP tolerates in AM.
   .
   # FEN: IVF, replete electrolytes, sips for now, can advance diet as
   tolerated with aspiration precautions
   .
   # Prophylaxis: Subcutaneous heparin; droplet precautions. Aspiration
   precautions. Bactrim ppx.
   .
   # Access: peripherals
   .
   # Code: full code, ICU consent in chart.
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-12-26**] 11:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2161-12-27 08:21:00 Physician Attending Progress Note
Chief Complaint: COPD exacerbation, RSV +
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Required Bipap this am with labored breathing and productive sputum.
   UO picked up with fluid bolus.
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-12-26**] 11:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-27**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.5
   HR: 109 (84 - 122) bpm
   BP: 128/60(77) {105/49(66) - 164/73(99)} mmHg
   RR: 27 (18 - 39) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    686 mL
                                                                    583 mL
   PO:
             TF:
   IVF:
                                                                    686 mL
                                                                    583 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    270 mL
   Urine:
                                                                  1,340 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -654 mL
                                                                    313 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (360 - 360) mL
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 99%
   ABG: ///27/
   Ve: 12.1 L/min
   Physical Examination
   General Appearance: Well nourished, mild resp distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: mm dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : mid inspitory, Wheezes : polyphonic diffuse
   bilateral, Rhonchorous:, on Bipap this am
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, no edema
   Skin:  Warm
   Neurologic: Intact, awake, alert
   Labs / Radiology
   12.1 g/dL
   361 K/uL
   93 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   26 mg/dL
   107 mEq/L
   144 mEq/L
   36.1 %
   19.9 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
   WBC
   16.3
   19.9
   Hct
   35.7
   36.1
   Plt
   279
   361
   Cr
   0.6
   0.6
   Glucose
   97
   93
   Other labs: PT / PTT / INR:12.6/45.0/1.1, D-dimer:402 ng/mL, Ca++:8.5
   mg/dL, Mg++:2.7 mg/dL, PO4:2.3 mg/dL
   Spu cx: OP flora
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   74 y/o F with hx of CAD and COPD with exacerbation. RSV +  with
   multiorgs in sputum.
   Requiring intermittent Bipap likely related to post tussive resp
   distress
   Abx: Levoflox
   Standing nebs. Decrease atrovent to reduce airway drying, add mucomyst
   nebs and guiafenesin for mucolysis. Keep hydrated.
   Acapella
   High dose steroids with Bactrim ppx chroinically
   TTE with preserved EF and mod pulm htn a few months back.
   Leukocytosis: stress/steroid induced..follow
    CAD: cont ASA, not on beta blocker. Watch HR.
   HTN: verapamil, ACE
   Rest per resident note
   15:10: Patient  more comfortable  than this morning although still
   mildly dyspneic at rest. Chest with diffuse expiratory wheezes. I/E
   PMI not displaced. Heart sounds soft. No gallop. Abdomen soft, non
   tender. No peripheral edema.
   Patient making slow progress. Continue bronchodilators and steroids.
   Consider using short acting narcotics before activity.
   ICU Care
   Nutrition: po
   Comments: po liquids
   Glycemic Control: Regular insulin sliding scale
   Lines / Intubation:
   20 Gauge - [**2161-12-25**] 03:12 M
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent: 35 min
   Patient is critically ill

2161-12-28 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Required BIPAP overnight from 12am to 2am.
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-12-28**] 04:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-28**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.3
   HR: 116 (80 - 120) bpm
   BP: 144/68(86) {102/48(64) - 166/75(94)} mmHg
   RR: 35 (18 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,153 mL
                                                                    111 mL
   PO:
             TF:
   IVF:
                                                                  2,153 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    365 mL
   Urine:
                                                                    825 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,328 mL
                                                                   -254 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: Standby
   Vt (Spontaneous): 438 (400 - 438) mL
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 98%
   ABG: ///26/
   Ve: 9.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   336 K/uL
   12.3 g/dL
   89 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   28 mg/dL
   109 mEq/L
   144 mEq/L
   35.8 %
   17.1 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
   WBC
   16.3
   19.9
   17.1
   Hct
   35.7
   36.1
   35.8
   Plt
   279
   361
   336
   Cr
   0.6
   0.6
   0.5
   Glucose
   97
   93
   89
   Other labs: PT / PTT / INR:12.6/45.0/1.1, D-dimer:402 ng/mL, Ca++:7.7
   mg/dL, Mg++:2.4 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Assessment and Plan: 74 yo F with marked COPD admitted with COPD
   exacerbation.
   .
   # COPD exacerbation - +RSV on viral culture. No obvious infiltrate.
   Will continue on abx  however given her chronic steroids and risk to
   develop superimposed bacterial infection.  Continues to require
   intermittent BiPAP
   - q2-4 hour standing xopenex and atrovent nebs
   - high dose steroids, given 20mg chronic prednisone for burst and taper
   back to 20mg
   - continue levoflox for possible CA pna x 5 days
   - sputum for culture
   - pulmonary toilet
   - acapella
   .
   # Tachycardia - likely in the setting of respiratory distress. Very low
   likelihood for PE, given negative d-dimer, good reason for dyspnea,
   gradual onset of symptoms, no evidence of EKG changes. Gave IVF
   yesterday, but no real response. ?respiratory distress as a
   contributor. Continue rate control as BP tolerates today. HR stable
   - monitor
   .
   # Hypotension - patient became hypotensive in ED with the addition of
   BiPAP. Suspicion is for preload dependence, likely secondary to
   hypovolemia. Currently maintaining pressures and tolerated BiPAP
   .
   # Leukocytosis - likely secondary to steroids, but diff is slightly
   left shifted which argues for continuing abx. Trend.
   .
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   continue aspirin. Not on beta blockade, continue acei as tolerated.
   .
   # Hypertension: Continue verapamil and acei as BP tolerates in AM.
   .
   # FEN: IVF, replete electrolytes, sips for now, can advance diet as
   tolerated with aspiration precautions
   .
   # Prophylaxis: Subcutaneous heparin; droplet precautions. Aspiration
   precautions. Bactrim ppx.
   .
   # Access: peripherals
   .
   # Code: full code, ICU consent in chart.
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-12-26**] 11:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2161-12-28 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   patient required BIPAP from 12am to 2am overnight and again this
   morning at high settings.
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-12-28**] 04:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-28**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.3
   HR: 116 (80 - 120) bpm
   BP: 144/68(86) {102/48(64) - 166/75(94)} mmHg
   RR: 35 (18 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,153 mL
                                                                    111 mL
   PO:
             TF:
   IVF:
                                                                  2,153 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    365 mL
   Urine:
                                                                    825 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,328 mL
                                                                   -254 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: Standby
   Vt (Spontaneous): 438 (400 - 438) mL
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 98%
   ABG: ///26/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: Well nourished, mild resp distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: mm dry
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : mid inspitory, Wheezes : polyphonic diffuse
   bilateral, Rhonchorous:, on Bipap this am. Poor air movement
   throughout.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: trace sacral edema
   Skin:  Warm
   Neurologic: Intact, awake, alert
   Labs / Radiology
   336 K/uL
   12.3 g/dL
   89 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   28 mg/dL
   109 mEq/L
   144 mEq/L
   35.8 %
   17.1 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
   WBC
   16.3
   19.9
   17.1
   Hct
   35.7
   36.1
   35.8
   Plt
   279
   361
   336
   Cr
   0.6
   0.6
   0.5
   Glucose
   97
   93
   89
   Other labs: PT / PTT / INR:12.6/45.0/1.1, D-dimer:402 ng/mL, Ca++:7.7
   mg/dL, Mg++:2.4 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Assessment and Plan: 74 yo F with marked COPD admitted with COPD
   exacerbation.
   .
   # COPD exacerbation - +RSV on viral culture. No obvious infiltrate.
   Will continue on abx given her chronic steroids and risk to develop
   superimposed bacterial infection.  Continues to require intermittent
   BiPAP.
   - consider treating RSV
   - q2-4 hour standing xopenex and atrovent nebs
   - high dose steroids, given 20mg chronic prednisone for burst and taper
   back to 20mg
   - continue levoflox for possible CA pna x 5 days
   - sputum for culture
 NGTD
   - pulmonary toilet
   - acapella
   .
   # Tachycardia - likely in the setting of respiratory distress. Very low
   likelihood for PE, given negative d-dimer, good reason for dyspnea,
   gradual onset of symptoms, no evidence of EKG changes. Gave IVF
   yesterday, but no real response. ?respiratory distress as a
   contributor. ?anxiety as well. Will try anxiolytic therapy as well.
   Would consider beta blockade, low dose if it continues to be elevated
   throughout the day.
   - monitor
   .
   # Hypotension
 continue to monitor, and give IVF prn.
   .
   # Leukocytosis - likely secondary to steroids. Trend.
   .
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   continue aspirin. Not on beta blockade, continue acei as tolerated.
   .
   # Hypertension: Continue verapamil and acei as BP tolerates in AM.
   .
   # FEN: IVF, replete electrolytes, sips for now, can advance diet as
   tolerated with aspiration precautions
   .
   # Prophylaxis: Subcutaneous heparin; droplet precautions. Aspiration
   precautions. Bactrim ppx.
   .
   # Access: peripherals
   .
   # Code: full code, ICU consent in chart.
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-12-26**] 11:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2161-12-28 10:28:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-12-28**] 04:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-28**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 132 (80 - 132) bpm
   BP: 87/59(66) {87/48(64) - 166/82(94)} mmHg
   RR: 20 (18 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,153 mL
                                                                  1,111 mL
   PO:
             TF:
   IVF:
                                                                  2,153 mL
                                                                  1,111 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    565 mL
   Urine:
                                                                    825 mL
                                                                    565 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,328 mL
                                                                    546 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 438 (400 - 438) mL
   PS : 12 cmH2O
   RR (Spontaneous): 566
   PEEP: 8 cmH2O
   FiO2: 35%
   SpO2: 98%
   ABG: ///26/
   Ve: 8.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   336 K/uL
   89 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   28 mg/dL
   109 mEq/L
   144 mEq/L
   35.8 %
   17.1 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
   WBC
   16.3
   19.9
   17.1
   Hct
   35.7
   36.1
   35.8
   Plt
   279
   361
   336
   Cr
   0.6
   0.6
   0.5
   Glucose
   97
   93
   89
   Other labs: PT / PTT / INR:12.6/45.0/1.1, D-dimer:402 ng/mL, Ca++:7.7
   mg/dL, Mg++:2.4 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   General Appearance: Well nourished, mild resp distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: mm dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : mid inspitory, Wheezes : polyphonic diffuse
   bilateral, Rhonchorous:, on Bipap this am
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, no edema
   Skin:  Warm
   Neurologic: Intact, awake, alert
   Labs / Radiology
   12.1 g/dL
   361 K/uL
   93 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   26 mg/dL
   107 mEq/L
   144 mEq/L
   36.1 %
   19.9 K/uL
    [**2161-12-26**]  02:29 AM
    [**2161-12-27**]  06:00 AM
   WBC
    16.3
    19.9
   Hct
    35.7
    36.1
   Plt
    279
    361
   Cr
    0.6
    0.6
   Glucose
    97
    93
   Other labs: PT / PTT / INR:12.6/45.0/1.1, D-dimer:402 ng/mL, Ca++:8.5
   mg/dL, Mg++:2.7 mg/dL, PO4:2.3 mg/dL
   Spu cx: OP flora
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   74 y/o F with hx of CAD and COPD with exacerbation. RSV +  with
   multiorgs in sputum.
   Requiring intermittent Bipap likely related to post tussive resp
   distress
   Abx: Levoflox
   Standing nebs. Decrease atrovent to reduce airway drying, add mucomyst
   nebs and guiafenesin for mucolysis. Keep hydrated.
   Acapella
   High dose steroids with Bactrim ppx chroinically
   TTE with preserved EF and mod pulm htn a few months back.
   Leukocytosis: stress/steroid induced..follow
    CAD: cont ASA, not on beta blocker. Watch HR.
   HTN: verapamil, ACE
   Rest per resident note
   15:10: Patient  more comfortable  than this morning although still
   mildly dyspneic at rest. Chest with diffuse expiratory wheezes. I/E
   PMI not displaced. Heart sounds soft. No gallop. Abdomen soft, non
   tender. No peripheral edema.
   Patient making slow progress. Continue bronchodilators and steroids.
   Consider using short acting narcotics before activity.
   ICU Care
   Nutrition: po
   Comments: po liquids
   Glycemic Control: Regular insulin sliding scale
   Lines / Intubation:
   20 Gauge - [**2161-12-25**] 03:12 M
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent: 35 min
   Patient is critically ill
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-12-26**] 11:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2161-12-29 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Went on BiPAp for the whole evening.
   Started BB with excellent effect on HR
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-12-29**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-29**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96
   HR: 89 (74 - 132) bpm
   BP: 147/69(87) {87/42(55) - 161/82(97)} mmHg
   RR: 20 (17 - 38) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,491 mL
                                                                    490 mL
   PO:
                                                                    380 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,111 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    420 mL
   Urine:
                                                                  1,195 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    296 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (420 - 550) mL
   PS : 12 cmH2O
   RR (Spontaneous): 566
   PEEP: 5 cmH2O
   FiO2: 100%
   SpO2: 93%
   ABG: ///26/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: mild resp distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: mm dry
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles: mid inspitory, Wheezes : polyphonic diffuse
   bilateral, Rhonchorous:, on Bipap this am. Poor air movement
   throughout.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: trace sacral edema
   Skin:  Warm
   Neurologic: Intact, awake, alert
   Labs / Radiology
   306 K/uL
   11.2 g/dL
   72 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.2 mEq/L
   28 mg/dL
   108 mEq/L
   143 mEq/L
   32.6 %
   15.0 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
                             [**2161-12-28**]  09:57 PM
                             [**2161-12-29**]  04:00 AM
   WBC
   16.3
   19.9
   17.1
   15.0
   Hct
   35.7
   36.1
   35.8
   32.6
   Plt
   279
   361
   336
   306
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   Glucose
   97
   93
   89
   82
   72
   Other labs: PT / PTT / INR:12.6/45.0/1.1, D-dimer:402 ng/mL, Ca++:7.0
   mg/dL, Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation.
   .
   # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture. Will
   continue on abx given her chronic steroids and risk to develop
   superimposed bacterial infection.  Continues to require intermittent
   BiPAP.
   -  q2-4 hour standing xopenex and atrovent nebs
   - high dose steroids, given 20mg chronic prednisone for burst and taper
   back to 20mg
   - continue levoflox for possible CA pna x 5 days
 stop date today
   - sputum for culture
 NGTD
   - pulmonary toilet
   - acapella
   .
   # Volume Overload
 pt with increased pulm vasculature on CXR, given
   concern for continued resp distress, will start gentle diuresis
   -          lasix 10mg IV, goal -500 cc
   .
   # Tachycardia - likely in the setting of respiratory distress. Very low
   likelihood for PE, given negative d-dimer, good reason for dyspnea,
   gradual onset of symptoms, no evidence of EKG changes. Gave IVF
   yesterday, but no real response. ?respiratory distress as a
   contributor. ?anxiety as well.
   - Continue metoprolol 12.5mg TID
   - Continue ativan QHS PRN
   .
   # Hypotension
 resolved
   .
   # Leukocytosis - likely secondary to steroids. Trending down
   .
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   continue aspirin. Metoprolol as above, continue acei as tolerated.
   .
   # FEN: IVF, replete electrolytes, sips for now, can advance diet as
   tolerated with aspiration precautions
   .
   # Prophylaxis: Subcutaneous heparin. Aspiration precautions. Bactrim
   ppx.
   .
   # Access: peripherals
   .
   # Code: full code, ICU consent in chart.
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2161-12-28**] 10:50 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: ICU

2161-12-29 11:49:00 Physician Attending Progress Note
Chief Complaint: COPD exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   ID says do not Rx RSV
   On bipap scheduled all night, face tent this am
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2161-12-29**] 10:21 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-12-29**] 04:14 AM
   Omeprazole (Prilosec) - [**2161-12-29**] 10:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-29**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.4
C (95.8
   HR: 107 (74 - 130) bpm
   BP: 156/54(81) {102/42(55) - 161/81(97)} mmHg
   RR: 24 (17 - 36) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  1,491 mL
                                                                    790 mL
   PO:
                                                                    380 mL
                                                                    540 mL
   TF:
   IVF:
                                                                  1,111 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    680 mL
   Urine:
                                                                  1,195 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    296 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 373 (373 - 550) mL
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   FiO2: 100%
   SpO2: 93%
   ABG: ///26/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Well nourished, mild resp distress
   Eyes / Conjunctiva: PERRLHead, Ears, Nose, Throat: mm dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: bibasilar crackles : mid and end inspitory, Wheezes :
   polyphonic diffuse bilateral
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, no edema
   Skin:  Warm
   Neurologic: Intact, awake, alert
   Labs / Radiology
   11.2 g/dL
   306 K/uL
   72 mg/dL
   0.4 mg/dL
   26 mEq/L
   4.2 mEq/L
   28 mg/dL
   108 mEq/L
   143 mEq/L
   32.6 %
   15.0 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
                             [**2161-12-28**]  09:57 PM
                             [**2161-12-29**]  04:00 AM
   WBC
   16.3
   19.9
   17.1
   15.0
   Hct
   35.7
   36.1
   35.8
   32.6
   Plt
   279
   361
   336
   306
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   Glucose
   97
   93
   89
   82
   72
   Other labs: PT / PTT / INR:12.6/45.0/1.1, D-dimer:402 ng/mL, Ca++:7.0
   mg/dL, Mg++:2.3 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 ANXIETY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   74 y/o F with hx of CAD and COPD with exacerbation. RSV +  with
   multiorgs in sputum.
   Requiring intermittent Bipap.
   Abx: Levoflox last day today
   Standing nebs
   On mucomyst nebs and guiafenesin for mucolysis. Check CXR to r/o
   CHF..consider some lasix.
   Acapella
   High dose steroids with Bactrim ppx chronically
   Anxiety: low dose benzo at night
   Leukocytosis: stress/steroid induced..follow
   CAD/S Tachycardia: add beta blocker, watch resp status
   HTN: verapamil, ACE
   PT consult
   Rest per resident note
   ICU Care
   Nutrition:
   Comments: po liquids
   Glycemic Control: Regular insulin sliding scale
   Lines / Intubation:
   20 Gauge - [**2161-12-25**] 03:12 M
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent: 35 min
   Patient is critically ill

2161-12-30 06:25:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
   The patient required Bipap last pm
   Given lasix 10mg IV X2 yest
   Ativan 1mg po X1 given this am for anxiety and tachycardia with
   improvement
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2161-12-29**] 10:21 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2161-12-29**] 10:21 AM
   Furosemide (Lasix) - [**2161-12-29**] 02:16 PM
   Heparin Sodium (Prophylaxis) - [**2161-12-30**] 04:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-30**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.2
   HR: 121 (76 - 131) bpm
   BP: 148/81(92) {101/45(59) - 163/82(92)} mmHg
   RR: 34 (17 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
                  Total In:
                                                                    990 mL
                  PO:
                                                                    740 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,955 mL
                                                                    745 mL
   Urine:
                                                                  2,955 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,965 mL
                                                                   -745 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 595 (373 - 595) mL
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 95%
   ABG: ///27/
   Ve: 10.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   322 K/uL
   12.7 g/dL
   118 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   28 mg/dL
   102 mEq/L
   140 mEq/L
   37.2 %
   24.0 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
                             [**2161-12-28**]  09:57 PM
                             [**2161-12-29**]  04:00 AM
                             [**2161-12-29**]  06:52 PM
                             [**2161-12-30**]  03:46 AM
   WBC
   16.3
   19.9
   17.1
   15.0
   24.0
   Hct
   35.7
   36.1
   35.8
   32.6
   37.2
   Plt
   279
   361
   336
   306
   322
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   0.6
   Glucose
   97
   93
   89
   82
   72
   118
   Other labs: PT / PTT / INR:12.6/45.0/1.1, D-dimer:402 ng/mL, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR [**12-29**] - FINDINGS: Since prior exam, there has been interval
   development of left lung
   base patchy opacities with blunting of the costophrenic angle. The
   cardiomediastinal silhouette is stable. The aorta is calcified. There
   is no
   pneumothorax. The pulmonary vasculature is normal. The osseous
   structures
   are stable.
   IMPRESSION: Patchy opacities in the left lung base with blunting of the
   costophrenic angle may represent pneumonia and small pleural effusion
   Microbiology: [**2161-12-25**] 9:51 pm SPUTUM      Source: Expectorated.
                               **FINAL REPORT [**2161-12-27**]**
      GRAM STAIN (Final [**2161-12-25**]):
         [**9-12**] PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2161-12-27**]):
         MODERATE GROWTH OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation.
   # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture. CXR
   shows ?LLL consolidation, however these are mild.  CT Chest has been
   ordered for evaluation.  Leukocytosis increased this AM which raised
   concern for developing PNA, however she has remained afebrile
   overnight.
   -  q2-4 hour standing xopenex and atrovent nebs
   - restart home advair
   - stop Solumedrol 100gm q8h
   - start Prednisone 60mg PO
   - hold abx for now, if CT scan shows consolidation will broaden to
   cover HAP
   - resend sputum culture
   - pulmonary toilet
   - acapella
   # Volume Overload
 pt with increased pulm vasculature on CXR
   throughout admission.  Diuresed well overnight
   -          goal -500 cc today, Lasix 10mg IV PRN
   # Tachycardia - likely in the setting of respiratory distress.
   - Continue metoprolol 12.5mg TID
   - Continue ativan QHS PRN
   # Leukocytosis - likely secondary to steroids, however increased from
   15
 24 this morning which raises suspicion for infectious source.
   Patient afebrile but CXR with ?consolidations of left lung.
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   continue aspirin. Metoprolol as above, continue acei as tolerated.
   # FEN: IVF, replete electrolytes, can advance diet as tolerated with
   aspiration precautions
   # Prophylaxis: SQ heparin. Aspiration precautions. Bactrim ppx.
   # Access: PIV, order PICC
   # Code: full code, ICU consent in chart.
   # Communication: Patient
   # Disposition: pending above
   ------ Protected Section ------
   Physical Exam:
   Gen: mild distress, fact tent in place, able to answer questions,
   states she feel
better
   CVS: +S1/S2, distant heart sounds, no m/r/g, rrr
   LUNGS: +crackles/ronchi throughout, no wheezing
   ABD: +BS, NT/ND
   EXT: no c/c/e, +2 pulses
   ------ Protected Section Addendum Entered By:[**Name (NI) 4238**] [**Last Name (NamePattern1) 4239**], MD
   on:[**2161-12-30**] 13:09 ------

2161-12-30 11:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Bipap overnight.
   Lasix 10 mg iv x 1
   Ativan for anxiety and tachycardia, with improvement in symptoms
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2161-12-29**] 10:21 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2161-12-29**] 02:16 PM
   Heparin Sodium (Prophylaxis) - [**2161-12-30**] 04:03 AM
   Omeprazole (Prilosec) - [**2161-12-30**] 07:56 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-30**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 95 (76 - 136) bpm
   BP: 149/69(89) {101/45(59) - 163/88(92)} mmHg
   RR: 30 (18 - 35) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                    990 mL
                                                                    100 mL
   PO:
                                                                    740 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,955 mL
                                                                    915 mL
   Urine:
                                                                  2,955 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,965 mL
                                                                   -815 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 595 (595 - 595) mL
   PS : 12 cmH2O
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 92%
   ABG: ///27/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Well nourished, mild resp distress
   Eyes / Conjunctiva: PERRLHead, Ears, Nose, Throat: mm dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: bibasilar crackles : mid and end inspitory, Wheezes :
   polyphonic diffuse bilateral, dont appreciate bronchial sounds.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, no edema
   Skin:  Warm, multiple bruises
   Neurologic: Intact, awake, alert
   Labs / Radiology
   12.7 g/dL
   322 K/uL
   118 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   28 mg/dL
   102 mEq/L
   140 mEq/L
   37.2 %
   24.0 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
                             [**2161-12-28**]  09:57 PM
                             [**2161-12-29**]  04:00 AM
                             [**2161-12-29**]  06:52 PM
                             [**2161-12-30**]  03:46 AM
   WBC
   16.3
   19.9
   17.1
   15.0
   24.0
   Hct
   35.7
   36.1
   35.8
   32.6
   37.2
   Plt
   279
   361
   336
   306
   322
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   0.6
   Glucose
   97
   93
   89
   82
   72
   118
   Other labs: PT / PTT / INR:12.6/45.0/1.1, D-dimer:402 ng/mL, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR yest: LLL patchy opacities with new effusion
   Assessment and Plan
 TACHYCARDIA, OTHER
 ANXIETY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   74 y/o F with hx of CAD and COPD with exacerbation. RSV +  with
   multiorgs in sputum. Continues to have tenious resp status.
   Now with increasing WBC and new infiltrates on CXR, but afecrile on
   high dose steroids.
   Resp: Start steroid taper..sitch to prednisone 60 today.
   Send another sputum cx.
   CT chest w/o contrast
   Abx: Completed levoflox..start vanc and zosyn if consolidation for HAP
   Standing nebs
   On mucomyst nebs and guiafenesin for mucolysis.
   Acapella
   Start Advair
   I/O: keep neg
   Anxiety: low dose benzo at night
   CAD/S Tachycardia: add beta blocker, watch resp status
   HTN: verapamil, ACE
   PT consult
   Rest per resident note
   ICU Care
   Nutrition:
   Comments: po liquids
   Glycemic Control: Regular insulin sliding scale
   Lines / Intubation:
   20 Gauge - [**2161-12-25**] 03:12 M
   picc consult
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent: 35 min
   Patient is critically ill

2161-12-31 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient was -500cc at midnight.
   No BIPAP required overnight.
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2161-12-29**] 10:21 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2161-12-30**] 07:56 AM
   Heparin Sodium (Prophylaxis) - [**2161-12-31**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-31**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.6
C (96
   HR: 88 (74 - 136) bpm
   BP: 132/70(84) {92/49(59) - 156/88(93)} mmHg
   RR: 24 (18 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  1,240 mL
                                                                    120 mL
   PO:
                                                                    740 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,209 mL
                                                                    245 mL
   Urine:
                                                                  1,209 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     31 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///33/
   Physical Examination
   Gen: using accessory muscles of resp. able to answer questions, states
   she feel
better
   CVS: +S1/S2, distant heart sounds, no m/r/g, rrr
   LUNGS: +crackles/ronchi throughout, no wheezing
   ABD: +BS, NT/ND
   EXT: no c/c/e, +2 pulses
   Labs / Radiology
   329 K/uL
   12.3 g/dL
   130 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.8 mEq/L
   35 mg/dL
   104 mEq/L
   145 mEq/L
   36.1 %
   23.8 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
                             [**2161-12-28**]  09:57 PM
                             [**2161-12-29**]  04:00 AM
                             [**2161-12-29**]  06:52 PM
                             [**2161-12-30**]  03:46 AM
                             [**2161-12-31**]  04:25 AM
   WBC
   16.3
   19.9
   17.1
   15.0
   24.0
   23.8
   Hct
   35.7
   36.1
   35.8
   32.6
   37.2
   36.1
   Plt
   279
   361
   336
   [**Telephone/Fax (3) 8032**]
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   0.6
   0.5
   Glucose
   97
   93
   89
   82
   72
   118
   130
   Other labs: PT / PTT / INR:12.2/56.3/1.0, D-dimer:402 ng/mL, Ca++:8.1
   mg/dL, Mg++:2.4 mg/dL, PO4:2.0 mg/dL
MICRO:
  [**2161-12-25**] 9:51 pm SPUTUM      Source: Expectorated.
                            **FINAL REPORT [**2161-12-27**]**
   GRAM STAIN (Final [**2161-12-25**]):
      [**9-12**] PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Final [**2161-12-27**]):
      MODERATE GROWTH OROPHARYNGEAL FLORA.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
Rapid Respiratory Viral Antigen Test (Final [**2161-12-25**]):
      Positive for Respiratory Syncytial viral antigen.
      SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B AND
      RSV.
   CT CHEST [**12-30**] -
   IMPRESSION:
   1. Scattered peribronchiolar opacities likely due to known RSV
   infection.
   2. Dependent left lower lobe opacities favor atelectasis, but bacterial
   pneumonia is not excluded in the appropriate clinical setting.
   3. High-grade compression deformities in mid thoracic spine.
   4. Emphysema.
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation.
   # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture..  CT
   Chest with no clear infilitrate, c/w severe emphysema. + Leukocytosis
   stable. Afebrile
   -  q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Prednisone 60mg PO, slow taper
   - will start scheduled evening BiPAP
   - hold abx for now, completed course of levaquin
 5days
   - resend sputum culture
   - pulmonary toilet
   - acapella
   # Volume Overload
 pt with increased pulm vasculature on CXR
   throughout admission.  Diuresed well overnight
   -          goal -even
   # Tachycardia - likely in the setting of respiratory distress.
   - Continue metoprolol 12.5mg TID
   - Continue ativan QHS PRN
   # Leukocytosis - likely secondary to steroids, however increased from
   15
 24 this morning which raises suspicion for infectious source.
   - resend sputum and urine cx
   - CT chest neg for infiltrate
   .
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   continue aspirin. Metoprolol as above, continue acei as tolerated.
   # FEN: IVF, replete electrolytes, can advance diet as tolerated with
   aspiration precautions
   # Prophylaxis: SQ heparin. Aspiration precautions. Bactrim ppx.
   # Access: PIV, order PICC
   # Code: full code, ICU consent in chart.
   # Communication: Patient
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2161-12-28**] 10:50 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:  h2
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: ICU

2161-12-31 11:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresed - 500 cc
   Required bipap this am
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2161-12-29**] 10:21 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-12-31**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-31**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36
C (96.8
   HR: 102 (74 - 115) bpm
   BP: 146/80(95) {116/49(66) - 156/81(97)} mmHg
   RR: 32 (18 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  1,240 mL
                                                                    274 mL
   PO:
                                                                    740 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    500 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                  1,209 mL
                                                                    335 mL
   Urine:
                                                                  1,209 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     31 mL
                                                                    -61 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 330 (330 - 330) mL
   PS : 12 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 94%
   ABG: ///33/
   Ve: 6.7 L/min
   Physical Examination
   General Appearance: Well nourished, mild resp distress
   Eyes / Conjunctiva: PERRLHead, Ears, Nose, Throat: mm dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: bibasilar crackles : mid and end inspitory, Wheezes :
   polyphonic diffuse bilateral, dont appreciate bronchial sounds.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, no edema
   Skin:  Warm, multiple bruises
   Neurologic: Intact, awake, alert
   Labs / Radiology
   12.3 g/dL
   329 K/uL
   130 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.8 mEq/L
   35 mg/dL
   104 mEq/L
   145 mEq/L
   36.1 %
   23.8 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
                             [**2161-12-28**]  09:57 PM
                             [**2161-12-29**]  04:00 AM
                             [**2161-12-29**]  06:52 PM
                             [**2161-12-30**]  03:46 AM
                             [**2161-12-31**]  04:25 AM
   WBC
   16.3
   19.9
   17.1
   15.0
   24.0
   23.8
   Hct
   35.7
   36.1
   35.8
   32.6
   37.2
   36.1
   Plt
   279
   361
   336
   [**Telephone/Fax (3) 8032**]
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   0.6
   0.5
   Glucose
   97
   93
   89
   82
   72
   118
   130
   Other labs: PT / PTT / INR:12.2/56.3/1.0, D-dimer:402 ng/mL, Ca++:8.1
   mg/dL, Mg++:2.4 mg/dL, PO4:2.0 mg/dL
   Imaging: CT chest: some TBM, small LLL infiltrate, Tib thruout, bad
   emphysema
   Microbiology: Spu cx: tb collected
   Assessment and Plan
 TACHYCARDIA, OTHER
 ANXIETY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   74 y/o F with hx of CAD and COPD with exacerbation. RSV +  with
   multiorgs in sputum. Continues to have tenious resp status.
   Now with increasing WBC. CT chest small small LLL consolidation and TBM
   with Tib. Afecrile on high dose steroids.
   Resp: slow prednisone taper
   Send another sputum cx.
   Abx: Completed levoflox
   Standing nebs
   On mucomyst nebs and guiafenesin for mucolysis.
   Acapella
   Put on scheduled Bipap at night, NC during the day
   I/O: keep even
   Anxiety: low dose benzo at night
   CAD/S Tachycardia: added beta blocker, watch resp status
   HTN: verapamil, ACE
   Check UA and cx
   PT consult
   Rest per resident note
   ICU Care
   Nutrition:
   Comments: po liquids
   Glycemic Control: Regular insulin sliding scale
   Lines / Intubation:
   20 Gauge - [**2161-12-25**] 03:12 M
   picc consult
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent: 35 min
   Patient is critically ill

2162-01-01 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2161-12-31**] 10:16 AM- rested
   overnight
   had burst of sinus tachycardia this morning after nebs, gave AM
   metoprolol dose early with good effect.
   UA was dirty, treating with CTX. Awaiting culture.
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2161-12-29**] 10:21 AM
   Ceftriaxone - [**2161-12-31**] 05:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-12-31**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-1**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 103 (74 - 103) bpm
   BP: 133/70(84) {111/50(66) - 152/85(101)} mmHg
   RR: 28 (17 - 42) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  1,337 mL
                                                                     68 mL
   PO:
                                                                    435 mL
             TF:
   IVF:
                                                                    902 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    160 mL
   Urine:
                                                                    600 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    737 mL
                                                                    -92 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (330 - 350) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: ///30/
   Ve: 6.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   309 K/uL
   12.3 g/dL
   95 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   28 mg/dL
   104 mEq/L
   140 mEq/L
   35.9 %
   17.4 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
                             [**2161-12-28**]  09:57 PM
                             [**2161-12-29**]  04:00 AM
                             [**2161-12-29**]  06:52 PM
                             [**2161-12-30**]  03:46 AM
                             [**2161-12-31**]  04:25 AM
                             [**2162-1-1**]  05:06 AM
   WBC
   16.3
   19.9
   17.1
   15.0
   24.0
   23.8
   17.4
   Hct
   35.7
   36.1
   35.8
   32.6
   37.2
   36.1
   35.9
   Plt
   279
   361
   336
   [**Telephone/Fax (3) 8032**]
   309
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   0.6
   0.5
   0.5
   Glucose
   97
   93
   89
   82
   72
   118
   130
   95
   Other labs: PT / PTT / INR:12.2/56.3/1.0, D-dimer:402 ng/mL, Ca++:7.8
   mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   [**2162-10-30**]:
   Source: Catheter
   Color
   Red
   Appear
   Cloudy
   SpecGr
   1.025
   pH
   6.0
   Urobil
   2
   Bili
   Mod
   Leuk
   Neg
   Bld
   Lg
   Nitr
   Pos
   Prot
   >300
   Glu
   Neg
   Ket
   >80
   RBC
   >50
   WBC
   [**4-28**]
   Bact
   Many
   Yeast
   None
   Epi
   0
   MICRO:
   [1][**2161-12-31**]
   URINE
   URINE CULTURE-PENDING
   [2][**2161-12-25**]
   SPUTUM
GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {GRAM NEGATIVE ROD(S)} RESPIRATORY C
ULTURE (Final [**2161-12-27**]):
      MODERATE GROWTH OROPHARYNGEAL FLORA.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   [3][**2161-12-25**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-FINAL; Rapid Respiratory Viral Antigen
   Test-FINAL
   CT CHEST [**12-30**] -
   IMPRESSION:
   1. Scattered peribronchiolar opacities likely due to known RSV
   infection.
   2. Dependent left lower lobe opacities favor atelectasis, but bacterial
   pneumonia is not excluded in the appropriate clinical setting.
   3. High-grade compression deformities in mid thoracic spine.
   4. Emphysema.
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation.
   # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture..  CT
   Chest with no clear infilitrate, c/w severe emphysema. + Leukocytosis
   stable. Afebrile
   -  q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Prednisone 60mg PO, slow taper
   - will start scheduled evening BiPAP
   - hold abx for now, completed course of levaquin
 5days
   - resend sputum culture
   - pulmonary toilet
   - acapella
   # Volume Overload
 pt with increased pulm vasculature on CXR
   throughout admission.  Diuresed well overnight
   -          goal -even
   # Tachycardia - likely in the setting of respiratory distress.
   - Continue metoprolol 12.5mg TID
   - Continue ativan QHS PRN
   # Leukocytosis - likely secondary to steroids, however increased from
   15
 24 this morning which raises suspicion for infectious source.
   - resend sputum and urine cx
   - CT chest neg for infiltrate
   .
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   continue aspirin. Metoprolol as above, continue acei as tolerated.
   # FEN: IVF, replete electrolytes, can advance diet as tolerated with
   aspiration precautions
   # Prophylaxis: SQ heparin. Aspiration precautions. Bactrim ppx.
   # Access: PIV, order PICC
   # Code: full code, ICU consent in chart.
   # Communication: Patient
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2161-12-28**] 10:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);

2162-01-01 10:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2161-12-31**] 10:16 AM
   Intermittent sinus tachy, responded to metoprolol
   UA dirty, started on Ceftriaxone
   Bipap overnight.
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Ceftriaxone - [**2161-12-31**] 05:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-12-31**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-1**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 92 (74 - 107) bpm
   BP: 115/59(71) {111/50(66) - 152/85(101)} mmHg
   RR: 28 (17 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  1,337 mL
                                                                    107 mL
   PO:
                                                                    435 mL
             TF:
   IVF:
                                                                    902 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    255 mL
   Urine:
                                                                    600 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    737 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (350 - 350) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, improved resp distressed
   Eyes / Conjunctiva: PERRLHead, Ears, Nose, Throat: mm dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: bibasilar crackles : mid and end inspitory, Wheezes :
   none.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, no edema
   Skin:  Warm, multiple bruises
   Neurologic: Intact, awake, alert
   Labs / Radiology
   12.3 g/dL
   309 K/uL
   95 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   28 mg/dL
   104 mEq/L
   140 mEq/L
   35.9 %
   17.4 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
                             [**2161-12-28**]  09:57 PM
                             [**2161-12-29**]  04:00 AM
                             [**2161-12-29**]  06:52 PM
                             [**2161-12-30**]  03:46 AM
                             [**2161-12-31**]  04:25 AM
                             [**2162-1-1**]  05:06 AM
   WBC
   16.3
   19.9
   17.1
   15.0
   24.0
   23.8
   17.4
   Hct
   35.7
   36.1
   35.8
   32.6
   37.2
   36.1
   35.9
   Plt
   279
   361
   336
   [**Telephone/Fax (3) 8032**]
   309
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   0.6
   0.5
   0.5
   Glucose
   97
   93
   89
   82
   72
   118
   130
   95
   Other labs: PT / PTT / INR:12.2/56.3/1.0, D-dimer:402 ng/mL, Ca++:7.8
   mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 ANXIETY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
    74 y/o F with hx of CAD and COPD with exacerbation. RSV +  with
   multiorgs in sputum. Improving resp status. UTI. CT chest small small
   LLL consolidation and ? TBM with Tib. Afecrile on high dose steroids.
   Resp: slow prednisone taper, drop by 10 mg q5 days, back to baseline of
   20/day.
   Completed levoflox course.
   Standing nebs
   On mucolytics.
   Acapella
   Put on scheduled Bipap at night, FM during the day.
   Considering awake bronch for TBM today, but concerned about need for
   sedation which patient requests.
   UTI: Ceftriaxone, WBC improved, U Cx pend
   I/O: keep even
   Anxiety: low dose benzo at night
   CAD/S Tachycardia: added beta blocker, watch resp status
   HTN: verapamil, ACE
   PT consult
   Rest per resident note
   ICU Care
   Nutrition:
   Comments: po liquids
   Glycemic Control: Regular insulin sliding scale
   Lines / Intubation:
   20 Gauge - [**2161-12-25**] 03:12 M
   picc consult
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   Total time spent: 35 min
   Patient is critically ill

2162-01-02 07:22:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure/RSV bronchiolitis
   24 Hour Events:
   Pt rested on Bipap overnight
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Ceftriaxone - [**2162-1-1**] 03:49 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-1-2**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-2**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 114 (79 - 114) bpm
   BP: 141/74(86) {110/53(68) - 162/96(111)} mmHg
   RR: 23 (19 - 33) insp/[**Year (4 digits) **]
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
                  Total In:
                                                                    410 mL
                  PO:
                                                                    195 mL
                  TF:
   IVF:
                                                                    215 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                    110 mL
   Urine:
                                                                    560 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -151 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 391 (330 - 625) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 6.1 L/[**Year (4 digits) **]
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   279 K/uL
   11.5 g/dL
   95 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   28 mg/dL
   104 mEq/L
   140 mEq/L
   33.6 %
   15.9 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
                             [**2161-12-28**]  09:57 PM
                             [**2161-12-29**]  04:00 AM
                             [**2161-12-29**]  06:52 PM
                             [**2161-12-30**]  03:46 AM
                             [**2161-12-31**]  04:25 AM
                             [**2162-1-1**]  05:06 AM
                             [**2162-1-2**]  05:47 AM
   WBC
   16.3
   19.9
   17.1
   15.0
   24.0
   23.8
   17.4
   15.9
   Hct
   35.7
   36.1
   35.8
   32.6
   37.2
   36.1
   35.9
   33.6
   Plt
   279
   361
   336
   [**Telephone/Fax (3) 8032**]
   309
   279
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   0.6
   0.5
   0.5
   Glucose
   97
   93
   89
   82
   72
   118
   130
   95
   Other labs: PT / PTT / INR:12.2/56.3/1.0, D-dimer:402 ng/mL, Ca++:7.8
   mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Microbiology: [**2162-1-1**] 11:47 am SPUTUM     Site: EXPECTORATED
         Source: Expectorated.
      GRAM STAIN (Final [**2162-1-1**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Preliminary):
   [**2161-12-31**] 12:13 pm URINE      Source: Catheter.
                               **FINAL REPORT [**2162-1-1**]**
      URINE CULTURE (Final [**2162-1-1**]):
         YEAST.    >100,000 ORGANISMS/ML..
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation.
   # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture..  CT
   Chest with no clear infilitrate, c/w severe emphysema. Patient with
   +leukocytosis yesterday, likley from UTI, started on CTX.  Patient
   looks better today from a pulmonary standpoint, breathing comfortably
   on exam, off BIPAP
   -  q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Prednisone 60mg PO x 5 days, then decrease by 10mg q5days
   - cont intermittent BiPAP
   - hold abx for now, completed course of levaquin
 5days
   - pulmonary toilet
   - acapella
   # UTI:  Patient with +UTI on UA yesterday, started on CTX
   -- cont CTX
   -- f/u Urine cultures
   # Volume Overload
 pt with increased pulm vasculature on CXR
   throughout admission.  Diuresed well overnight
   -          goal -even
   # Tachycardia
 Occurred after Zopenex this morning, improved with
   Metoprolol, will cont to monitor
   - Continue metoprolol 12.5mg TID
   - Continue ativan QHS PRN
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   continue aspirin. Metoprolol as above, continue acei as tolerated.
   # FEN: IVF, replete electrolytes, can advance diet as tolerated with
   aspiration precautions
   # Prophylaxis: SQ heparin. Aspiration precautions. Bactrim ppx.
   # Access: PIV, PICC to be placed today
   # Code: full code, ICU consent in chart.
   # Communication: Patient
   # Disposition: pending above
   ICU Care
   Nutrition:
   Comments: Regular
   Glycemic Control:
   Lines:
   22 Gauge - [**2161-12-28**] 10:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:  Mrs [**Known lastname **] appears to responding to therapy
   with slow improvement in her breathing and less need for frequenet neb
   Rx. She remains in need for BiPAP during the day and at night.
   Secretions are minimal.
   Exam notable for Tm 99.5 BP 110/74 HR 85 RR 20 with sats of 97%on 40%
   Face tent . She has diminshed breath sounds and evidence for continued
   exp wheezing. minimal edema in LUE noted.
   Labs notable for WBC  15.9K, HCT of 33.6 , K+ 3.9 , Cr  0.6. CXR with
   hyperinflation but improving LLL ASD.Sputum cultures of [**1-1**] with OP
   flora and yeast. UCx with yeast too.
   Agree with plan to continue supportive care with O2, mucolytics, nebs
   and Abx ( at least for 5 more days). We will start steroid taper
   sllowly and advance diet as tolerated. PICC to be placed today in case
   needed for nutritional support. She will stay in ICU till BiPAP [**Last Name (un) 8065**]
   are less.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Doctor Last Name 1973**].M.D.

2162-01-03 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient was off BIPAP all night.
   Labs not drawn this AM, difficult venous stick.
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Ceftriaxone - [**2162-1-2**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-3**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 91 (75 - 114) bpm
   BP: 135/72(82) {103/41(59) - 156/86(100)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,240 mL
                                                                     62 mL
   PO:
                                                                  1,100 mL
             TF:
   IVF:
                                                                    140 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                    535 mL
                                                                    105 mL
   Urine:
                                                                    535 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    705 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   279 K/uL
   11.5 g/dL
   95 mg/dL
   0.6 mg/dL
   31 mEq/L
   4.1 mEq/L
   28 mg/dL
   103 mEq/L
   142 mEq/L
   33.6 %
   15.9 K/uL
        [image002.jpg]
                             [**2161-12-26**]  02:29 AM
                             [**2161-12-27**]  06:00 AM
                             [**2161-12-28**]  02:53 AM
                             [**2161-12-28**]  09:57 PM
                             [**2161-12-29**]  04:00 AM
                             [**2161-12-29**]  06:52 PM
                             [**2161-12-30**]  03:46 AM
                             [**2161-12-31**]  04:25 AM
                             [**2162-1-1**]  05:06 AM
                             [**2162-1-2**]  05:47 AM
   WBC
   16.3
   19.9
   17.1
   15.0
   24.0
   23.8
   17.4
   15.9
   Hct
   35.7
   36.1
   35.8
   32.6
   37.2
   36.1
   35.9
   33.6
   Plt
   279
   361
   336
   [**Telephone/Fax (3) 8032**]
   309
   279
   Cr
   0.6
   0.6
   0.5
   0.4
   0.4
   0.6
   0.5
   0.5
   0.6
   Glucose
   97
   93
   89
   82
   72
   118
   130
   95
   95
   Other labs: PT / PTT / INR:12.2/56.3/1.0, D-dimer:402 ng/mL, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 ANXIETY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   74 yo F with marked COPD admitted with COPD exacerbation.
    # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture..  CT
   Chest with no clear infilitrate, c/w severe emphysema. Patient with
   +leukocytosis yesterday, likley from UTI, started on CTX.  Patient
   looks better today from a pulmonary standpoint, breathing comfortably
   on exam, off BIPAP
   -  q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Prednisone 50mg PO x 3 days, then decrease by 10mg q3days until 20mg
   daily which is her normal home dosage
   - cont intermittent BiPAP PRN
   - completed 5 day course of Levaquin, now on CTX for leukocytosis on
   [**12-30**] and continued left base consolidation, will complete a 2^nd 5 day
   course of CTX, last day [**1-4**]
   - pulmonary toilet
   - acapella
    # UTI:  Patient with +UTI on UA, now growing yeast, started on CTX
   initially.  Patient was on Levaquin so still. Concern for bacterial
   source.  Will complete 5 day course of CTX.
   -- cont CTX x 5 days
   -- start Fluconazole x 10 days for treatment  of yeast as she has
   +urine and +sputum cultures with yeast
   # Tachycardia
 Occurrs after Zopenex, improveswith Metoprolol, will
   cont to monitor
   - Continue metoprolol 12.5mg TID
   - Continue ativan QHS PRN
    # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   continue aspirin. Metoprolol as above, continue acei as tolerated.
    # FEN: IVF, replete electrolytes, can advance diet as tolerated with
   aspiration precautions
   # Prophylaxis: SQ heparin. Aspiration precautions. Bactrim ppx.
    # Access: PIV, PICC to be placed today
    # Code: full code, ICU consent in chart.
    # Communication: Patient
    # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-1-2**] 03:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with Dr
   [**Last Name (STitle) 4239**]
s  note above, including the assessment and plan. I would
   emphasize and add the following points:  Mrs [**Known lastname **] appears to
   responding to therapy with slow improvement in her breathing and less
   need for frequent neb Rx. She remains in need for BiPAP during the day
   and at night. Secretions are minimal.
   Exam notable for Tm 97.5 BP 110/74 HR 85 RR 20 with sats of 97%on 40%
   Face tent . She has diminshed breath sounds and evidence for continued
   exp wheezing. minimal edema in LUE noted. PICC line in place in RUE
   Labs pending. CXR with hyperinflation but improving LLL ASD.Sputum
   cultures of [**1-1**] with OP flora and yeast. UCx with yeast too.
   Agree with plan to continue supportive care with O2, mucolytics, nebs
   and Abx ( at least for 5 more days). We will taper steroids to 30 mg
   today and advance diet as tolerated. TPN to be started to add to
   caloric intake which has been marginal. Intermittent tachypnea
   worrisome for PE. We will screen legs with LENI
s today. She will stay
   in ICU till BiPAP needs are less.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min

2162-01-04 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday, was kept off bipap overnight, during the morning, was very
   short of breath, requiring bipap intermittently. Plan is to do bipap
   overnight regardless of respiratory status, for the purpose of resting.
 MIDLINE - START [**2162-1-3**] 08:00 AM
 NON-INVASIVE VENTILATION - START [**2162-1-3**] 08:00 AM - rested
   overnight on bipap despite looking well
 ULTRASOUND - At [**2162-1-3**] 03:35 PM
   LENIs -> negative for DVT
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Ceftriaxone - [**2162-1-3**] 05:37 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-1-3**] 08:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-4**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 89 (63 - 110) bpm
   BP: 127/59(72) {82/43(61) - 143/79(92)} mmHg
   RR: 22 (17 - 31) insp/[**Year (4 digits) **]
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,443 mL
                                                                    341 mL
   PO:
                                                                    610 mL
             TF:
   IVF:
                                                                    833 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                    481 mL
                                                                    110 mL
   Urine:
                                                                    481 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    962 mL
                                                                    231 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 577 (381 - 577) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ///31/
   Ve: 6.1 L/[**Year (4 digits) **]
   Physical Examination
   Gen: resting comfortably
   HEENT: dry MM
   CV: tachy, reg rhythm
   Resp: exp wheezes, prolonged expiration
   Abd: soft, NT/ND NABS
   Ext: no edema
   Labs / Radiology
   183 K/uL
   11.0 g/dL
   80 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.6 mEq/L
   34 mg/dL
   106 mEq/L
   142 mEq/L
   31.3 %
   18.1 K/uL
        [image002.jpg]
                             [**2161-12-28**]  02:53 AM
                             [**2161-12-28**]  09:57 PM
                             [**2161-12-29**]  04:00 AM
                             [**2161-12-29**]  06:52 PM
                             [**2161-12-30**]  03:46 AM
                             [**2161-12-31**]  04:25 AM
                             [**2162-1-1**]  05:06 AM
                             [**2162-1-2**]  05:47 AM
                             [**2162-1-3**]  09:30 AM
                             [**2162-1-4**]  04:24 AM
   WBC
   17.1
   15.0
   24.0
   23.8
   17.4
   15.9
   21.4
   18.1
   Hct
   35.8
   32.6
   37.2
   36.1
   35.9
   33.6
   34.9
   31.3
   Plt
   [**Telephone/Fax (3) 8088**]29
   [**Telephone/Fax (2) 8089**]83
   Cr
   0.5
   0.4
   0.4
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   Glucose
   89
   82
   72
   118
   130
   95
   95
   75
   80
   Other labs: PT / PTT / INR:12.2/56.3/1.0, D-dimer:402 ng/mL, Ca++:8.3
   mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation.
    # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture.. CT
   Chest with no clear infilitrate, c/w severe emphysema. Patient looks
   better today from a pulmonary standpoint, breathing comfortably on
   exam, BIpap tolerated well last pm
   -  q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Prednisone 30mg PO x 3 days, then decrease to 20mg daily which is her
   normal home dosage
   - cont scheduled pm BIPAP and intermittent BiPAP PRN
   - completed 5 day course of Levaquin, now on CTX for leukocytosis on
   [**12-30**] and continued left base consolidation, will complete a 2^nd 5 day
   course of CTX, last day today
   - pulmonary toilet
   - acapella
    # UTI:  Patient with +UTI on UA, now growing yeast, started on CTX
   initially.  Patient was on Levaquin so still. Concern for bacterial
   source.  Will complete 5 day course of CTX.
   -- cont CTX x 5 days
   -- start Fluconazole x 10 days for treatment  of yeast as she has
   +urine and +sputum cultures with yeast
   # Tachycardia
 Occurrs after Zopenex, improveswith Metoprolol, will
   cont to monitor
   - Continue metoprolol 12.5mg TID
   - Continue ativan QHS PRN
    # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   continue aspirin. Metoprolol as above, continue acei as tolerated.
    # FEN: IVF, replete electrolytes, can advance diet as tolerated with
   aspiration precautions
   # Prophylaxis: SQ heparin. Aspiration precautions. Bactrim ppx.
    # Access: midline
    # Code: full code, ICU consent in chart.
    # Communication: Patient
    # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-1-2**] 03:10 PM
   Midline - [**2162-1-3**] 08:00 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:  Mrs [**Known lastname **] appears to responding to therapy
   with slow improvement in her breathing and less need for frequenet neb
   Rx. She remains in need for BiPAP during the day and at night.
   Secretions have increased in past 24 hrs
   Exam notable for Tm 97.8 BP 110/67 HR 80 RR 20 with sats of 97%on 40%
   Face tent . She has diminshed breath sounds and evidence for continued
   exp wheezing. minimal edema in LUE noted. easy skin bruisability seen
   too
   Labs notable for WBC  18.1 K, HCT of 31.6 , K+ 3.6 , Cr  0.6. CXR with
   hyperinflation but improving LLL ASD.Sputum cultures of [**1-1**] with OP
   flora and yeast. UCx with yeast too.
   Agree with plan to continue supportive care with O2, mucolytics, nebs
   and Abx and recheck sputum cultures.. We will continue steroid taper
   slowly and advance diet as tolerated. PICC placed on 21/5 in case
   needed for nutritional support. She will stay in ICU till BiPAP [**Last Name (un) 8065**]
   are less. We will optimize caloric intake with PPN/ TPN today
   Remainder of plan as outlined above.
   Patient is ill but responding to rx
   Total time: 35 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],M.D.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2162-1-4**] 12:05 PM ------

2162-01-05 06:50:00 Physician Resident Progress Note
Chief Complaint: RSV bronchiolitis/COPD exacerbation
   24 Hour Events:
   Pt placed on scheduled Bipap overnight
   Finished 5 day course of ceftriaxone on [**1-4**]
   Continues on fluconazole for UTI
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Ceftriaxone - [**2162-1-4**] 04:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-1-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-5**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.3
   HR: 78 (64 - 130) bpm
   BP: 154/69(88) {107/46(62) - 163/69(88)} mmHg
   RR: 21 (19 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  2,275 mL
                                                                    524 mL
   PO:
                                                                    950 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    950 mL
   Blood products:
   Total out:
                                                                    485 mL
                                                                    190 mL
   Urine:
                                                                    485 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,790 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 405 (405 - 405) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: 7.45/42/108/27/4
   PaO2 / FiO2: 309
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   77 K/uL
   9.5 g/dL
   97 mg/dL
   0.8 mg/dL
   27 mEq/L
   5.0 mEq/L
   46 mg/dL
   107 mEq/L
   139 mEq/L
   27.7 %
   16.0 K/uL
        [image002.jpg]
                             [**2161-12-29**]  04:00 AM
                             [**2161-12-29**]  06:52 PM
                             [**2161-12-30**]  03:46 AM
                             [**2161-12-31**]  04:25 AM
                             [**2162-1-1**]  05:06 AM
                             [**2162-1-2**]  05:47 AM
                             [**2162-1-3**]  09:30 AM
                             [**2162-1-4**]  04:24 AM
                             [**2162-1-4**]  12:38 PM
                             [**2162-1-5**]  03:33 AM
   WBC
   15.0
   24.0
   23.8
   17.4
   15.9
   21.4
   18.1
   16.0
   Hct
   32.6
   37.2
   36.1
   35.9
   33.6
   34.9
   31.3
   27.7
   Plt
   [**Telephone/Fax (3) 8102**]
   183
   77
   Cr
   0.4
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   0.8
   TCO2
   30
   Glucose
   72
   118
   130
   95
   95
   75
   80
   97
   Other labs: PT / PTT / INR:12.2/56.3/1.0, D-dimer:402 ng/mL, Lactic
   Acid:1.1 mmol/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation.
    # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture.. CT
   Chest with no clear infilitrate, c/w severe emphysema. Continues to
   require intermittent bipap.
   -  q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Prednisone 30mg PO x 3 days (today is day 2), then decrease to 20mg
   daily which is her normal home dosage
   - cont scheduled pm BIPAP and intermittent BiPAP PRN
   - completed 5 day course of Levaquin and 5 day course of CTX for
   - pulmonary toilet
   - acapella
   # Thrombocytosis: precipitous drop around hospital day 10.  Last
   heparin dose in [**Month (only) 102**] before this admission.  Ddimer and INR not
   suggestive of DIC.  Concern for HIT antibody positivity.  Bactrim also
   a possibility but has been on it for a long time.  ? ITP.
   - heme consult initiated
   - guaiac stools
   - upper and lower extremity dopplers
   - peripheral smear
   - type and cross
   - possible argatroban pending above and heme opinion, HIT algorithm
   score roughly [**3-24**].  Suspect risk of bleed is low, but pending guaiac.
   - consider d/c bactrim
    # UTI:  Patient with +UTI on UA, now growing yeast, started on CTX
   initially, course now finished course of CTX and levoquin.  Now on
   fluconazole for yeast on culture with positive UA.
   - Fluconazole x 10 days for treatment  of yeast as she has +urine and
   +sputum cultures with yeast. Day 1 [**1-4**]
   # Tachycardia
 Occurrs after Zopenex, improves with Metoprolol, will
   cont to monitor
   - Continue metoprolol 12.5mg TID
   - Continue ativan QHS PRN
    # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   continue aspirin. Metoprolol as above, continue acei as tolerated.
    # FEN: IVF, replete electrolytes, can advance diet as tolerated with
   aspiration precautions
   # Prophylaxis: pneumoboots.  Aspiration precautions. Bactrim ppx
   (consider d/c as above).
    # Access: midline
    # Code: full code, ICU consent in chart.
    # Communication: Patient
    # Disposition: pending above
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2162-1-4**] 06:00 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2162-1-3**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2162-01-05 09:58:00 Physician Attending Progress Note
Chief Complaint: COPD, RSV
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   On bipap overnight
   Completed Ceftriaxone
   History obtained from Medical records
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Ceftriaxone - [**2162-1-4**] 04:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-1-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-5**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 87 (64 - 94) bpm
   BP: 118/57(71) {107/46(62) - 164/70(88)} mmHg
   RR: 22 (19 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  2,275 mL
                                                                    799 mL
   PO:
                                                                    950 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    950 mL
   Blood products:
   Total out:
                                                                    485 mL
                                                                    390 mL
   Urine:
                                                                    485 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,790 mL
                                                                    409 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 405 (405 - 405) mL
   PS : 8 cmH2O
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: 7.45/42/108/27/4
   PaO2 / FiO2: 309
   Physical Examination
   General Appearance: mild resp distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, multiple ecchymosis and abd wall hematoma
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   77 K/uL
   97 mg/dL
   0.8 mg/dL
   27 mEq/L
   5.0 mEq/L
   46 mg/dL
   107 mEq/L
   139 mEq/L
   27.7 %
   16.0 K/uL
        [image002.jpg]
                             [**2161-12-29**]  04:00 AM
                             [**2161-12-29**]  06:52 PM
                             [**2161-12-30**]  03:46 AM
                             [**2161-12-31**]  04:25 AM
                             [**2162-1-1**]  05:06 AM
                             [**2162-1-2**]  05:47 AM
                             [**2162-1-3**]  09:30 AM
                             [**2162-1-4**]  04:24 AM
                             [**2162-1-4**]  12:38 PM
                             [**2162-1-5**]  03:33 AM
   WBC
   15.0
   24.0
   23.8
   17.4
   15.9
   21.4
   18.1
   16.0
   Hct
   32.6
   37.2
   36.1
   35.9
   33.6
   34.9
   31.3
   27.7
   Plt
   [**Telephone/Fax (2) 8102**]
   183
   77
   Cr
   0.4
   0.6
   0.5
   0.5
   0.6
   0.6
   0.6
   0.8
   TCO2
   30
   Glucose
   72
   118
   130
   95
   95
   75
   80
   97
   Other labs: PT / PTT / INR:12.2/56.3/1.0, D-dimer:402 ng/mL, Lactic
   Acid:1.1 mmol/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 TACHYCARDIA, OTHER
 ANXIETY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   74 y/o F with COPD, RSV
   Resp: still very tenious, very tachypneic, requiring bipap at night,
   try to put on nightly bipap schedule, on steroid taper back to home
   dose of 20.
   Needs dynamic airway CT for TBM when stable.
   ID: On Fluc for yeast in urine and sputum. Check LFTs.
   New thrombocytopenia with anemia: In range for HIT, check HIT, start
   argatroban with heme consult. Follow Hct. Check coags, d-dimer and
   LENIs. Patient counselling reg argatroban use. Hx of DVT in [**2160**]. Type
   and cross. Check guiac.
   I/O: keep even
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2162-1-4**] 06:00 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2162-1-3**] 08:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, likely argatroban)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2162-01-06 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2162-1-5**] 12:30 PM
   - Thrombocytopenia and HCT drop
   - heme-onc consult
   - Lower and Upper extremity US all negative for thrombosis
   - stool guaiac negative brown
   - HIT negative, but started Argatroban
   - Peripheral smear not indicative of ITP/hemolysis; however, LDH rose
   sharply and hapto < 20
   - given stress dose Solumedrol 125 mg IV x 1
   - Bactrim discontinued
   - Trended HCT - gave 1 unit pRBCs
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Ceftriaxone - [**2162-1-4**] 04:00 PM
   Infusions:
   Argatroban - 1.25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-6**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.2
C (95.4
   HR: 93 (71 - 95) bpm
   BP: 118/60(73) {86/38(53) - 148/85(89)} mmHg
   RR: 22 (20 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  2,061 mL
                                                                    432 mL
   PO:
                                                                    400 mL
           TF:
   IVF:
                                                                    536 mL
                                                                     82 mL
   Blood products:
   350 mL
   Total out:
                                                                    790 mL
                                                                    133 mL
   Urine:
                                                                    790 mL
                                                                    133 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,271 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin, elderly, ill-appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, multiple ecchymoses over anterior chest and extremities
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   32 K/uL
   7.8 g/dL
   84 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.6 mEq/L
   56 mg/dL
   105 mEq/L
   137 mEq/L
   22.4 %
   15.0 K/uL
        [image002.jpg]
                             [**2161-12-31**]  04:25 AM
                             [**2162-1-1**]  05:06 AM
                             [**2162-1-2**]  05:47 AM
                             [**2162-1-3**]  09:30 AM
                             [**2162-1-4**]  04:24 AM
                             [**2162-1-4**]  12:38 PM
                             [**2162-1-5**]  03:33 AM
                             [**2162-1-5**]  06:07 PM
                             [**2162-1-5**]  09:33 PM
                             [**2162-1-6**]  04:05 AM
   WBC
   23.8
   17.4
   15.9
   21.4
   18.1
   16.0
   16.9
   15.5
   15.0
   Hct
   36.1
   35.9
   33.6
   34.9
   31.3
   27.7
   24.4
   25.1
   22.4
   Plt
   329
   309
   279
   301
   183
   77
   41
   36
   32
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   0.8
   1.0
   TCO2
   30
   Glucose
   130
   95
   95
   75
   80
   97
   84
   Other labs: PT / PTT / INR:18.3/81.4/1.7, ALT / AST:29/57, Alk Phos / T
   Bili:67/1.8, D-dimer:359 ng/mL, Fibrinogen:333 mg/dL, Lactic Acid:1.1
   mmol/L, LDH:1474 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: Haptoglobin <20
   LDH 1553 -> 1474
   Fibrinogen 333
   D-dimer 359
   Heparin dependent antibodies - negative
   Cold Agglutinin Screen - pending
   Direct Coombs - pending
   Imaging: UENI [**1-5**]: No deep venous thrombosis in the upper extremities.
   Note that the left
   basilic and cephalic veins were not seen, possibly the sequelae of
   chronic
   thrombus in these superficial veins.
   LENI [**1-5**]: No evidence of DVT.
   Microbiology: [**1-5**] MRSA screen - pending
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation, now with
   thrombocytopenia and anemia
   # Thrombocytopenia:  Platelets continue to trend downward, despite
   stress-dose steroids administered yesterday PM.  Most likely mechanism
   seems to be peripheral destruction; differential diagnosis includes ITP
   vs. TTP vs. DIC vs. drug-induced thrombocytopenia.   Heparin dependent
   antibody is negative; HIT now seems unlikely given that platelets are
   <50K.
   -            Continue stress dose steroids: Solumedrol 60 mg IV BID
   -          d/c PPI, NSAID
s, ASA
   -          d/c argatroban as no evidence of thrombosis, negative
   heparin-dependent antibody
   -          Literature review also reveals reported cases of
   drug-induced thrombocytopenia due to atorvastatin, fluoroquinolones,
   TMP/SMX  -- > will d/c all potentially offending agents
   -          Send anti-platelet antibody
   -          Continue to follow for evidence of bleeding
   -          Hematology Consult following
   # Anemia:  Hematocrit has trended down from 41 to 22, since admission.
   Haptoglobin <20 and elevated LDH > 1500 suggestive of hemolysis.  Rare
   schistocytes seen on peripheral smear, as per Hematology consult.
   -            f/u Coombs antibody, cold agglutinin screen
   -            q 6 hour hematocrits
   -            serial hemolysis labs
   -            active type & screen; crossmatch 2 units
   -            transfuse to keep hct >25
   -            fractionate bilirubin
   -            check urine hemosiderin in consideration of intravascular
   hemolysis
   # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture.. CT
   Chest with no clear infilitrate, c/w severe emphysema. Continues to
   require intermittent bipap.
   -  q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Receiving stress dose steroids as above, with plan to taper back down
   to home dose of Prednisone 20mg daily
   - cont scheduled pm BIPAP and intermittent BiPAP PRN
   - pulmonary toilet
    # UTI:  Patient presented with +UTI on UA, now s/p treatment with CTX
   and levoquin.  Also with candiduria s/p 3 days of Fluconazole
          - d/c fluconazole
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   -            d/c ASA in the setting of thrombocytopenia
   -            continue metoprolol
    # FEN:  Advance to regular diet.  D/c PPN.
   # Prophylaxis:  Pneumoboots.  Will need long-term PCP prophylaxis, but
   Bactrim currently held.
    # Access: midline
    # Code: full code, ICU consent in chart.
    # Communication: Patient
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2162-1-3**] 08:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, Argatroban)
   Stress ulcer: d/c PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-01-06 09:01:00 Physician Attending Progress Note
Chief Complaint: COPD, RSV
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2162-1-5**] 12:30 PM
   Lower and Upper extremity US to r/o clots (from ?HIT): chr superficial
   thrombosis, no acute DVT in any limb.
   Developed precipitous anemia and thrombocytopenia x 48 hrs.
   Guiac neg
   HIT neg
   Started on argatroban due to clinical suspicion.
   Psmear w/o hemolysis, but LDH 1500, hapto < 20.
   Got solumedrol 125 x 1
   Bactrim switched to atovaquone.
   Got 1U PRBC for Hct 22
   Resp status still tenious, but required bipap only for 4 hrs from 12 am
   to 4 am
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Ceftriaxone - [**2162-1-4**] 04:00 PM
   Infusions:
   Argatroban - 1.25 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-6**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.2
C (95.4
   HR: 98 (71 - 98) bpm
   BP: 151/66(85) {86/38(53) - 151/85(89)} mmHg
   RR: 31 (20 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  2,061 mL
                                                                    472 mL
   PO:
                                                                    400 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    536 mL
                                                                     92 mL
   Blood products:
   350 mL
   Total out:
                                                                    790 mL
                                                                    233 mL
   Urine:
                                                                    790 mL
                                                                    233 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,271 mL
                                                                    239 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General Appearance: mild resp distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rare crackles : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, no HSM
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, multiple ecchymoses (upper chest, left lateral
   thigh) and abd wall hematoma
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented x 3, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   32 K/uL
   84 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.6 mEq/L
   56 mg/dL
   105 mEq/L
   137 mEq/L
   22.4 %
   15.0 K/uL
        [image002.jpg]
                             [**2161-12-31**]  04:25 AM
                             [**2162-1-1**]  05:06 AM
                             [**2162-1-2**]  05:47 AM
                             [**2162-1-3**]  09:30 AM
                             [**2162-1-4**]  04:24 AM
                             [**2162-1-4**]  12:38 PM
                             [**2162-1-5**]  03:33 AM
                             [**2162-1-5**]  06:07 PM
                             [**2162-1-5**]  09:33 PM
                             [**2162-1-6**]  04:05 AM
   WBC
   23.8
   17.4
   15.9
   21.4
   18.1
   16.0
   16.9
   15.5
   15.0
   Hct
   36.1
   35.9
   33.6
   34.9
   31.3
   27.7
   24.4
   25.1
   22.4
   Plt
   329
   309
   279
   301
   183
   77
   41
   36
   32
   Cr
   0.5
   0.5
   0.6
   0.6
   0.6
   0.8
   1.0
   TCO2
   30
   Glucose
   130
   95
   95
   75
   80
   97
   84
   Other labs: PT / PTT / INR:18.3/81.4/1.7, ALT / AST:29/57, Alk Phos / T
   Bili:67/1.8, D-dimer:359 ng/mL, Fibrinogen:333 mg/dL, Lactic Acid:1.1
   mmol/L, LDH:1474 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: HIT:neg
   Cold agglutinin:pend
   Coombs: neg
   Imaging: All 4 limbs: no DVT, chr thrombus L basilic/cephalic vein
   Assessment and Plan
 HEPARIN-INDUCED THROMBOCYTOPENIA
 IMPAIRED SKIN INTEGRITY
 TACHYCARDIA, OTHER
 ANXIETY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   74 y/o F with COPD, RSV, slow to come off bipap, now requiring it only
   at night.
   New thrombocytopenia with anemia with normal D-dimer and fibrinogen,
   but e/o hemolysis with high LDH, low Hapto and dropping Hct. HIT neg.
   Started on stress dose steroids for ? ITP and on argatroban for ? HIT.
   DD includes ITP and TTP (less likely). Off Bactrim, switched to
   atovaquone, which is also d/ced to minimize meds. Hematology
s input
   and recommendations are appreciated. Transfusion goals plt 10K, Hct 25.
   Repeat smear today. Trend labs. Fractionate bili. D/c ASA. Review med
   list. Will consider abdominal imaging to rule out hematoma give drop in
   Hct.
   Acute and chronic respiratory failure: Wean bipap as tolerated.
   Steroids for COPD + heme process.
   Needs dynamic airway CT for TBM when stable.
   ID: On Fluc for yeast in urine and sputum.
   I/O: keep even, watch BUN
   ICU Care
   Nutrition:
   Advance diet, off PPN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2162-1-3**] 08:00 AM
   Comments: Switch midline to double lumen access today.
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, argartoban, take boots off due
   to ecchymosis on legs
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35
   Patient is critically ill

2162-01-07 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Dyspnea
   24 Hour Events:
   [**1-6**]:
   - Heparin-dependent antibody negative
   - Argatroban discontinued
   - discontinued potentially offending agents: PPI, NSAID's, ASA,
   atorvastatin
   - Midline pulled out during bed transfer
   - Transfused 1 bag platelets with bump from 22K -> 82K
   - PICC placed urgently at bedside
   - Abdominal ultrasound showed normal spleen size and abdominal wall
   hematoma
   - antiplt antibody sent - negative
   - blood cultures x 2, UA sent
   - Continued Solumedrol 60 mg IV BID
   - stopped Fluconazole and discontinued foley
   - Hemolysis labs remain positive
   - Requested BIPAP from 10 PM until 1 AM, then took it off
   - GPC's in blood culture from [**1-6**] -> surveillance cx sent, started
   Vanc
   - transfused 1 U pRBCs this AM
 BLOOD CULTURED - At [**2162-1-6**] 11:56 AM
 ULTRASOUND - At [**2162-1-6**] 03:57 PM
   abdominal
 URINE CULTURE - At [**2162-1-6**] 04:15 PM
 MIDLINE - STOP [**2162-1-6**] 04:59 PM
 PICC LINE - START [**2162-1-6**] 06:00 PM
 BLOOD CULTURED - At [**2162-1-7**] 05:00 AM
   History obtained from Patient
   Allergies:
   History obtained from PatientAlbuterol
   uncomfortable t
   Last dose of Antibiotics:
   Ceftriaxone - [**2162-1-4**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-7**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 100 (76 - 100) bpm
   BP: 155/76(94) {121/48(68) - 164/56,101(95)} mmHg
   RR: 28 (21 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  1,066 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
                                                                    156 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                    610 mL
                                                                    114 mL
   Urine:
                                                                    610 mL
                                                                    114 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    456 mL
                                                                   -114 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   Gen: NAD
   HEENT: ncat, MMM
   PULM: LLL rhonchi, o/w CTA
   CV: S1/S2 distant. No w/r/r
   Abd: s/nt/nd/nabs.  Large echymoses on ant abd wall, palpable hematoma.
   Extr: 2+ pedal edema, L>R.  differential warmth R>L.  Palpable pulses
   and good capillary refill bilaterally.  No erythema.
   Neuro: AOx4, cn 2-12 intact grossly
   Labs / Radiology
   43 K/uL
   10.8 g/dL
   115 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.8 mEq/L
   61 mg/dL
   105 mEq/L
   138 mEq/L
   29.3 %
   18.3 K/uL
        [image002.jpg]
                             [**2162-1-4**]  04:24 AM
                             [**2162-1-4**]  12:38 PM
                             [**2162-1-5**]  03:33 AM
                             [**2162-1-5**]  06:07 PM
                             [**2162-1-5**]  09:33 PM
                             [**2162-1-6**]  04:05 AM
                             [**2162-1-6**]  11:28 AM
                             [**2162-1-6**]  05:27 PM
                             [**2162-1-7**]  12:34 AM
                             [**2162-1-7**]  05:05 AM
   WBC
   18.1
   16.0
   16.9
   15.5
   15.0
   20.1
   21.9
   17.7
   18.3
   Hct
   31.3
   27.7
   24.4
   25.1
   22.4
   28.4
   24.7
   23.5
   29.3
   Plt
   183
   77
   41
   36
   32
   22
   82
   65
   43
   Cr
   0.6
   0.8
   1.0
   1.1
   1.1
   TCO2
   30
   Glucose
   80
   97
   84
   138
   115
   Other labs: PT / PTT / INR:12.0/30.6/1.0, ALT / AST:35/88, Alk Phos / T
   Bili:78/2.9, Differential-Neuts:96.3 %, Band:4.0 %, Lymph:1.7 %,
   Mono:1.8 %, Eos:0.1 %, D-dimer:359 ng/mL, Fibrinogen:332 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:2136 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation, now with
   thrombocytopenia and anemia
   # Thrombocytopenia:  Platelets continue to trend downward, despite
   increased dose steroids.  Most likely mechanism seems to be peripheral
   destruction or medication induced.  Argatroban discontinued yesterday
   given no evidence of thrombosis.  PPI, ASA discontinued as well as
   other possible medication causes of thrombocytopenia: atorvastatin,
   fluoroquinolones, bactrim.   Heparin dependent antibody is negative;
   HIT now seems unlikely given that platelets are <50K.   S/p I bag
   platelets yesterday with bump, but then slow drift down.  No
   splenomegaly on u/s.  Antiplt antibody negative.  Now also growing GPCs
   in blood.
   -          decrease stress steroids to prednisone 60mg qday PO.
   -          minimize medications
   -          q 6 hrs CBC, LDH, and peripheral smear
   -          plt goal > 25,000 give ongoing evidence of abd wall
   bleeding.
   -          Continue to follow for evidence of bleeding
   -          Hematology Consult following
   -          treatment of GPCs as below
   # Anemia:  Hematocrit has trended down from 41 to 22, since admission.
   Haptoglobin <20 and elevated LDH > 1500 suggestive of hemolysis though
   rare schistocytes seen on multiple peripheral smears, as per Hematology
   consult.  While differential could still include hemolysis, the anemia
   could be from abd wall hematoma and hemolysis labs could be false
   positives from absorption of peripheral blood from hematoma.
   -            f/u Coombs antibody, cold agglutinin screen
   -            q 6 hour hematocrits and LDH
   -            active type & screen
   -            transfuse to keep hct >25
   # Bacteremia:  GPCs in one blood culture. Possible contaminant, but
   treating with vancomycin until further information.
   - cont vanc
   - f/u cultures
   # Differential warmth in LEs: no signs of cellulitis and pulses are
   present bilaterally with good capillary refill.  However, concern would
   be for venous or arterial thrombus, which would change management.
   -          bilateral LE venous and arterial dopplers
   # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture.. CT
   Chest with no clear infilitrate, c/w severe emphysema. Is relatively
   non compliant with scheduled BIPAP and has frequent desats to 80s.
   Pulm exam however is improved.
   -  q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Receiving stress dose steroids as above, with plan to taper back down
   to home dose of Prednisone 20mg daily
   - cont scheduled pm BIPAP and intermittent BiPAP PRN
   - pulmonary toilet
    # UTI:  Patient presented with +UTI on UA, now s/p treatment with CTX
   and levoquin.  Also with candiduria s/p 3 days of Fluconazole
          - fluconazole discontinued and foley removed
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   -            ASA discontinued in the setting of thrombocytopenia
   -            continue metoprolol
    # FEN:  Advance to regular diet.  D/c PPN.
   # Prophylaxis:  Pneumoboots discontinued [**12-21**] bruising.  Can
   anticoagulate currently [**12-21**] bleeding.  TEDS.  Will need long-term PCP
   prophylaxis, but Bactrim currently held.
    # Access: PICC
    # Code: full code, ICU consent in chart.
    # Communication: Patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2162-1-6**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-01-07 10:14:00 Physician Attending Progress Note
Chief Complaint: COPD, RSV, thrombocytopenia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2162-1-6**] 11:56 AM
 ULTRASOUND - At [**2162-1-6**] 03:57 PM
   abdominal
 URINE CULTURE - At [**2162-1-6**] 04:15 PM
 MIDLINE - STOP [**2162-1-6**] 04:59 PM
 PICC LINE - START [**2162-1-6**] 06:00 PM
 BLOOD CULTURED - At [**2162-1-7**] 05:00 AM
   Argatroban stopped since HIT neg and Hct dropped.
   Good bump in platelets after transfusion
   Normal spleen, large abd wall hematoma on US [**Last Name (un) 499**]
   APA neg
   Started on high dose solumedrol for ?
   Fluconazole stopped yesterday.
   LDH still rising.
   Bipap 10pm - 1am, then taken off
   Got 1 more unit PRBC this am
   GPC in blood cxs: pairs and chains, sent thru midline
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Ceftriaxone - [**2162-1-4**] 04:00 PM
   Vancomycin - [**2162-1-7**] 08:25 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-7**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 93 (76 - 102) bpm
   BP: 153/125(132) {121/50(68) - 164/56,101(132)} mmHg
   RR: 29 (21 - 34) insp/min
   SpO2: 91%  on 3 L n/c
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,066 mL
                                                                    247 mL
   PO:
                                                                    360 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    156 mL
                                                                    217 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                    610 mL
                                                                    114 mL
   Urine:
                                                                    610 mL
                                                                    114 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    456 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   General Appearance: mild resp distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all present, R foot colder than L but normal cap
   refill and equal pulses
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rare crackles : , Rhonchorous L > R: )
   Abdominal: Soft, Non-tender, Bowel sounds present, no HSM, + abd wall
   hematomas
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, multiple ecchymoses (upper chest, left lateral
   thigh)
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented x 3, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   43 K/uL
   115 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.8 mEq/L
   61 mg/dL
   105 mEq/L
   138 mEq/L
   29.3 %
   18.3 K/uL
        [image002.jpg]
                             [**2162-1-4**]  04:24 AM
                             [**2162-1-4**]  12:38 PM
                             [**2162-1-5**]  03:33 AM
                             [**2162-1-5**]  06:07 PM
                             [**2162-1-5**]  09:33 PM
                             [**2162-1-6**]  04:05 AM
                             [**2162-1-6**]  11:28 AM
                             [**2162-1-6**]  05:27 PM
                             [**2162-1-7**]  12:34 AM
                             [**2162-1-7**]  05:05 AM
   WBC
   18.1
   16.0
   16.9
   15.5
   15.0
   20.1
   21.9
   17.7
   18.3
   Hct
   31.3
   27.7
   24.4
   25.1
   22.4
   28.4
   24.7
   23.5
   29.3
   Plt
   183
   77
   41
   36
   32
   22
   82
   65
   43
   Cr
   0.6
   0.8
   1.0
   1.1
   1.1
   TCO2
   30
   Glucose
   80
   97
   84
   138
   115
   Other labs: PT / PTT / INR:12.0/30.6/1.0, ALT / AST:35/88, Alk Phos / T
   Bili:78/2.9 (normal indirect), Differential-Neuts:96.3 %, Band:4.0 %,
   Lymph:1.7 %, Mono:1.8 %, Eos:0.1 %, D-dimer:359 ng/mL, Fibrinogen:332
   mg/dL, Lactic Acid:1.1 mmol/L, LDH:2136 IU/L, Ca++:9.1 mg/dL, Mg++:2.0
   mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: APA: neg
   LDH 2100 (up from 1500)
   Hapto < 20
   Microbiology: Blood cx from midline: GPC chains
   2nd blood cx: neg
   UCx: pend
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 IMPAIRED SKIN INTEGRITY
 TACHYCARDIA, OTHER
 ANXIETY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   74 y/o F with COPD, RSV, slow to come off bipap, now requiring it only
   at night with thrombocytopenia and intra/extra vasc hemolysis
   Thrombocytopenia: Medication induced, multiple meds d/ced. Hit neg.
   Bumped appropriately to platelet transfusion but dropped them again
   since then. On higher dose of steroid dose, but no effect on platelet
   count, start tapering. Transfusion goal 10K.
   Hemolysis: intra + extra vasc, minimal schistos; likely related to [**Last Name (un) 499**]
   wall hematoma, transfusion goal 25. [**Month (only) 60**] require BM bx at some point.
   LDH continues to increase.
   ID: GPCocci in blood, on Vanc  Possible contamination, repeat BC
   pending
   Resp: Acute and chronic respiratory failure: Wean bipap as tolerated.
   Steroids for COPD + heme process.
   Needs dynamic airway CT for TBM when stable.
   CAD: ASA held
   R foot hypothermia with normal pulses: check thru the day, check venous
   and arterial doppler.
   I/O: keep even, watch BUN
   ICU Care
   Nutrition: taking po
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2162-1-6**] 06:00 PM
   Prophylaxis:
   DVT: add teds
   Stress ulcer: PPI
   VAP:
   Comments: PT seeing her
   Communication:  Comments:
   Code status: full
   Disposition : ICU, remains critically ill but may be stable for
   transfer in AM depending on Hct
   Total time spent: 35 minutes

2162-01-08 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   24 Hour Events:
   [**1-7**]:
   - Heme/onc recs: still has schistocytes, check TTE, check abd/pelvis
   w/o contrast to rule out RP bleed, repeat HIT Ab, cont IV solumedrol 60
   [**Hospital1 **]
   - venous and arterial dopplers, prelim reads are normal
 ULTRASOUND - At [**2162-1-7**] 02:15 PM
   Bilat legs
 ULTRASOUND - At [**2162-1-7**] 03:08 PM
   arterial study
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Vancomycin - [**2162-1-7**] 08:25 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-8**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.3
C (95.6
   HR: 92 (77 - 102) bpm
   BP: 126/73(80) {123/54(70) - 158/126(141)} mmHg
   RR: 20 (14 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    540 mL
                                                                    132 mL
   PO:
                                                                    180 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    360 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    349 mL
                                                                    100 mL
   Urine:
                                                                    349 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                     32 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   33 K/uL
   10.3 g/dL
   115 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.7 mEq/L
   74 mg/dL
   107 mEq/L
   140 mEq/L
   27.5 %
   22.3 K/uL
        [image002.jpg]
                             [**2162-1-5**]  09:33 PM
                             [**2162-1-6**]  04:05 AM
                             [**2162-1-6**]  11:28 AM
                             [**2162-1-6**]  05:27 PM
                             [**2162-1-7**]  12:34 AM
                             [**2162-1-7**]  05:05 AM
                             [**2162-1-7**]  11:37 AM
                             [**2162-1-7**]  04:48 PM
                             [**2162-1-7**]  11:32 PM
                             [**2162-1-8**]  04:56 AM
   WBC
   15.5
   15.0
   20.1
   21.9
   17.7
   18.3
   18.5
   19.9
   21.5
   22.3
   Hct
   25.1
   22.4
   28.4
   24.7
   23.5
   29.3
   30.3
   28.5
   26.7
   27.5
   Plt
   36
   32
   22
   82
   65
   43
   39
   37
   33
   33
   Cr
   1.0
   1.1
   1.1
   1.2
   Glucose
   84
   138
   115
   115
   Other labs: PT / PTT / INR:11.2/24.5/0.9, ALT / AST:46/112, Alk Phos /
   T Bili:82/2.7, Differential-Neuts:96.3 %, Band:4.0 %, Lymph:1.7 %,
   Mono:1.8 %, Eos:0.1 %, D-dimer:514 ng/mL, Fibrinogen:300 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:2297 IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation, now with
   thrombocytopenia and anemia
   # Thrombocytopenia:  Platelets continue to trend downward, despite
   increased dose steroids.  Most likely mechanism seems to be peripheral
   destruction or medication induced.  Argatroban discontinued yesterday
   given no evidence of thrombosis.  PPI, ASA discontinued as well as
   other possible medication causes of thrombocytopenia: atorvastatin,
   fluoroquinolones, bactrim.   Heparin dependent antibody is negative;
   HIT now seems unlikely given that platelets are <50K.   S/p I bag
   platelets yesterday with bump, but then slow drift down.  No
   splenomegaly on u/s.  Antiplt antibody negative.  Now also growing GPCs
   in blood.
   -          decrease stress steroids to prednisone 60mg qday PO.
   -          minimize medications
   -          q 6 hrs CBC, LDH, and peripheral smear
   -          plt goal > 25,000 give ongoing evidence of abd wall
   bleeding.
   -          Continue to follow for evidence of bleeding
   -          Hematology Consult following
   -          treatment of GPCs as below
   # Anemia:  Hematocrit has trended down from 41 to 22, since admission.
   Haptoglobin <20 and elevated LDH > 1500 suggestive of hemolysis though
   rare schistocytes seen on multiple peripheral smears, as per Hematology
   consult.  While differential could still include hemolysis, the anemia
   could be from abd wall hematoma and hemolysis labs could be false
   positives from absorption of peripheral blood from hematoma.
   -            f/u Coombs antibody, cold agglutinin screen
   -            q 6 hour hematocrits and LDH
   -            active type & screen
   -            transfuse to keep hct >25
   # Bacteremia:  GPCs in one blood culture. Possible contaminant, but
   treating with vancomycin until further information.
   - cont vanc
   - f/u cultures
   # Differential warmth in LEs: no signs of cellulitis and pulses are
   present bilaterally with good capillary refill.  However, concern would
   be for venous or arterial thrombus, which would change management.
   -          bilateral LE venous and arterial dopplers
   # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture.. CT
   Chest with no clear infilitrate, c/w severe emphysema. Is relatively
   non compliant with scheduled BIPAP and has frequent desats to 80s.
   Pulm exam however is improved.
   -  q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Receiving stress dose steroids as above, with plan to taper back down
   to home dose of Prednisone 20mg daily
   - cont scheduled pm BIPAP and intermittent BiPAP PRN
   - pulmonary toilet
    # UTI:  Patient presented with +UTI on UA, now s/p treatment with CTX
   and levoquin.  Also with candiduria s/p 3 days of Fluconazole
          - fluconazole discontinued and foley removed
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   -            ASA discontinued in the setting of thrombocytopenia
   -            continue metoprolol
    # FEN:  Advance to regular diet.  D/c PPN.
   # Prophylaxis:  Pneumoboots discontinued [**12-21**] bruising.  Can
   anticoagulate currently [**12-21**] bleeding.  TEDS.  Will need long-term PCP
   prophylaxis, but Bactrim currently held.
    # Access: PICC
    # Code: full code, ICU consent in chart.
    # Communication: Patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2162-1-6**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-01-08 12:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ULTRASOUND - At [**2162-1-7**] 02:15 PM Bilat legs negative
 ULTRASOUND - At [**2162-1-7**] 03:08 PM arterial study negative
   Continues to have schistocytes on smear
   Repeat HIT ab pending
   Was on nocturnal BiPAP 11pm-5am
   Remains afebrile, good vitals except mildly hypertensive
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Vancomycin - [**2162-1-8**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-8**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.3
C (95.5
   HR: 88 (77 - 97) bpm
   BP: 146/64(83) {123/54(70) - 158/126(141)} mmHg
   RR: 26 (14 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                    540 mL
                                                                    351 mL
   PO:
                                                                    180 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    360 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                    349 mL
                                                                    160 mL
   Urine:
                                                                    349 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    191 mL
                                                                    191 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 92%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Rub, distant HS
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : ,
   Diminished: bases)
   Abdominal: Soft, Non-tender, No(t) Distended, No(t) Tender:
   Skin:  Not assessed, echymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   33 K/uL
   115 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.7 mEq/L
   74 mg/dL
   107 mEq/L
   140 mEq/L
   27.5 %
   22.3 K/uL
        [image002.jpg]
                             [**2162-1-5**]  09:33 PM
                             [**2162-1-6**]  04:05 AM
                             [**2162-1-6**]  11:28 AM
                             [**2162-1-6**]  05:27 PM
                             [**2162-1-7**]  12:34 AM
                             [**2162-1-7**]  05:05 AM
                             [**2162-1-7**]  11:37 AM
                             [**2162-1-7**]  04:48 PM
                             [**2162-1-7**]  11:32 PM
                             [**2162-1-8**]  04:56 AM
   WBC
   15.5
   15.0
   20.1
   21.9
   17.7
   18.3
   18.5
   19.9
   21.5
   22.3
   Hct
   25.1
   22.4
   28.4
   24.7
   23.5
   29.3
   30.3
   28.5
   26.7
   27.5
   Plt
   36
   32
   22
   82
   65
   43
   39
   37
   33
   33
   Cr
   1.0
   1.1
   1.1
   1.2
   Glucose
   84
   138
   115
   115
   Other labs: PT / PTT / INR:11.2/24.5/0.9, ALT / AST:46/112, Alk Phos /
   T Bili:82/2.7, Differential-Neuts:96.3 %, Band:4.0 %, Lymph:1.7 %,
   Mono:1.8 %, Eos:0.1 %, D-dimer:514 ng/mL, Fibrinogen:300 mg/dL, Lactic
   Acid:1.1 mmol/L, LDH:2454 IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.8
   mg/dL
   Fluid analysis / Other labs: Labs reviewed. Platelets stable since
   yesterday AM
   LDH still high at 2454
   Retic count 1
   Microbiology: 3 neg BC since GPC p&c
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 IMPAIRED SKIN INTEGRITY
 TACHYCARDIA, OTHER
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   This remains a complicated case. 74 y/o F with COPD, RSV, respiratory
   failure improved with NPPV, now tolerating nocturnal BiPAP,
   thrombocytopenia, progressive renal failure, increasing evidence of
   hemolysis by smear.
   Case was discussed with hematology. At this point she meets several
   criteria for TTP without MS change and fever. Agree with placement of
   pharesis catheter. CT [**Last Name (un) 499**]/pelvis done and will be reviewed by
   radiology. TTE pending looking for vegetations in the event there is
   endocarditis-associated hemoolysis. She has one positive BC, 3 others
   negative thus far. On vancomycin. She is off argatroban. Will continue
   high dose steroids for now. Transfuse platelets if <10, keep Hct above
   25. Renal failure likely related to hemolytic process but may benefit
   from IVF
 will keep positive.
   Other issues include chronic respiratory failure. Appears more stable
   from a pulmonary perspective. Will continue BiPAP on prn basis for now.
   [**Month (only) 60**] needs dynamic airway CT for TBM when stable.
   R foot hypothermia with normal pulses: venous and arterial dopplers
   negative. Continue pneumoboots and OOB as much as possible.
   ICU Care
   Nutrition: diet
   Glycemic Control:  Regular insulin sliding scale
   Lines: PICC Line - [**2162-1-6**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:
   Code status: Full code, Disposition :ICU, Total time spent: 45 minutes
   Patient is critically ill

2162-01-09 03:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   This note is from [**1-8**], note lost in MetaVision
   24 Hour Events:
 ULTRASOUND - At [**2162-1-7**] 02:15 PM
   Bilat legs
 ULTRASOUND - At [**2162-1-7**] 03:08 PM
   arterial study
   - Heme/onc recs: still has schistocytes, check TTE, check abd/pelvis
   w/o contrast to rule out RP bleed, repeat HIT Ab, cont IV solumedrol 60
   [**Hospital1 **]
   - venous and arterial dopplers, prelim reads are normal
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Vancomycin - [**2162-1-8**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2162-1-8**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-9**] 03:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.4
C (95.8
   HR: 98 (77 - 126) bpm
   BP: 140/60(78) {97/44(54) - 181/126(131)} mmHg
   RR: 24 (18 - 41) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,413 mL
                                                                     28 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,353 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                    690 mL
                                                                    200 mL
   Urine:
                                                                    690 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    723 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Gen: NAD
   Heent: ncat
   pulm: ctab, no w/r/r
   cv: hrrr, no m/r/g
   abd: s/nt/nd/nabs
   extr: [**12-22**]+ pedal edema bilaterally
   skin: extensive ecchymoses
   Labs / Radiology
   29 K/uL
   10.3 g/dL
   115 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.7 mEq/L
   74 mg/dL
   107 mEq/L
   140 mEq/L
   24.2 %
   22.3 K/uL
        [image002.jpg]
                             [**2162-1-6**]  05:27 PM
                             [**2162-1-7**]  12:34 AM
                             [**2162-1-7**]  05:05 AM
                             [**2162-1-7**]  11:37 AM
                             [**2162-1-7**]  04:48 PM
                             [**2162-1-7**]  11:32 PM
                             [**2162-1-8**]  04:56 AM
                             [**2162-1-8**]  12:23 PM
                             [**2162-1-8**]  07:52 PM
                             [**2162-1-8**]  11:04 PM
   WBC
   21.9
   17.7
   18.3
   18.5
   19.9
   21.5
   22.3
   Hct
   24.7
   23.5
   29.3
   30.3
   28.5
   26.7
   27.5
   26.0
   24.2
   Plt
   82
   65
   43
   39
   37
   33
   33
   38
   29
   Cr
   1.1
   1.2
   TropT
   0.06
   Glucose
   115
   115
   Other labs: PT / PTT / INR:11.2/24.5/0.9, CK / CKMB /
   Troponin-T:1191/7/0.06, ALT / AST:46/112, Alk Phos / T Bili:82/2.7,
   Differential-Neuts:96.3 %, Band:4.0 %, Lymph:1.7 %, Mono:1.8 %, Eos:0.1
   %, D-dimer:514 ng/mL, Fibrinogen:300 mg/dL, Lactic Acid:1.1 mmol/L,
   LDH:2454 IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation, now with
   thrombocytopenia and anemia
   # Thrombocytopenia/Anemia:  Platelets continue to trend downward,
   despite increased dose steroids.  Possible offending agents
   discontinued.  Has growing number of schistocytes on peripheral smear.
   Thrombocytopenia from medications and separate hemolysis possible,
   though most concerning of the differential is TTP.  Given this concern,
   plasma pheresis was performed today.
   -          cont stress dose steroids
   -          minimize medications
   -          plasma pheresis per heme
   -          plt goal > 25,000
   -          Continue to follow for evidence of bleeding
   -          Hematology Consult following
   -          Active T/S, goal HCT > 25
   # Bacteremia:  enterococcus growing in one BCx.
   - cont vanc, f/u sensitivities
   # Differential warmth in LEs: no signs of cellulitis and pulses are
   present bilaterally with good capillary refill.  However, concern would
   be for venous or arterial thrombus, which would change management. LE
   venous and arterial dopplers negative.
   # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture.. CT
   Chest with no clear infilitrate, c/w severe emphysema. Is relatively
   non compliant with scheduled BIPAP and has frequent desats to 80s.
   Pulm exam however is improved.
   -  q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Receiving stress dose steroids as above, with plan to taper back down
   to home dose of Prednisone 20mg daily eventually
   - BiPAP PRN
   - pulmonary toilet
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   -            ASA discontinued in the setting of thrombocytopenia
   -            continue metoprolol
    # FEN:  Advance to regular diet.  D/c PPN.
   # Prophylaxis:  Pneumoboots
    # Access: PICC
    # Code: full code, ICU consent in chart.
    # Communication: Patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2162-1-6**] 06:00 PM
   Pheresis Catheter - [**2162-1-8**] 04:44 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-01-09 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress, TTP
   24 Hour Events:
 PHERESIS CATHETER - START [**2162-1-8**] 04:44 PM
   - pheresis catheter placed and she was plasmapheresed
   - TTE - hyperdynamic, PCWP elevated, no vegetations noted
   - holding lisinopril for plasmapheresis
   - two episodes of respiratory distress around plasmaphoresis, improved
   with bipap and lasix
   - ADAMTS13 sent
   - redosed vanc
   - transfused x 1 U
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Vancomycin - [**2162-1-8**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2162-1-8**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-9**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.4
C (95.8
   HR: 94 (84 - 126) bpm
   BP: 144/73(89) {97/44(54) - 181/91(116)} mmHg
   RR: 25 (20 - 41) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,663 mL
                                                                     72 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,603 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    690 mL
                                                                    560 mL
   Urine:
                                                                    690 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    973 mL
                                                                   -488 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   gen: nad
   pulm: diffuse insp and exp rhonchi
   cv: hrrr, no m/r/g
   abd: s/nt/nd/nabs
   skin: diffuse echymoses
   extr: bilateral LE edema left >> right
   neuro: aox4, cn 2-12 intact grossly
   Labs / Radiology
   24 K/uL
   8.6 g/dL
   122 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.0 mEq/L
   73 mg/dL
   106 mEq/L
   145 mEq/L
   23.3 %
   26.5 K/uL
        [image002.jpg]
                             [**2162-1-7**]  12:34 AM
                             [**2162-1-7**]  05:05 AM
                             [**2162-1-7**]  11:37 AM
                             [**2162-1-7**]  04:48 PM
                             [**2162-1-7**]  11:32 PM
                             [**2162-1-8**]  04:56 AM
                             [**2162-1-8**]  12:23 PM
                             [**2162-1-8**]  07:52 PM
                             [**2162-1-8**]  11:04 PM
                             [**2162-1-9**]  04:00 AM
   WBC
   17.7
   18.3
   18.5
   19.9
   21.5
   22.3
   26.5
   Hct
   23.5
   29.3
   30.3
   28.5
   26.7
   27.5
   26.0
   24.2
   23.3
   Plt
   65
   43
   39
   37
   33
   33
   38
   29
   24
   Cr
   1.1
   1.2
   1.2
   TropT
   0.06
   0.05
   Glucose
   115
   115
   122
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:714/5/0.05, ALT / AST:38/78, Alk Phos / T Bili:70/2.5,
   Differential-Neuts:96.3 %, Band:4.0 %, Lymph:1.7 %, Mono:1.8 %, Eos:0.1
   %, D-dimer:514 ng/mL, Fibrinogen:300 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.4 g/dL, LDH:1080 IU/L, Ca++:9.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.6 mg/dL
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation, now with
   thrombocytopenia and anemia
   # Thrombocytopenia/Anemia:  Platelets continue to trend downward,
   despite increased dose steroids.  Possible offending agents
   discontinued.  Has growing number of schistocytes on peripheral smear.
   Thrombocytopenia from medications and separate hemolysis possible,
   though most concerning of the differential is TTP.  Given this concern,
   plasma pheresis was performed yesterday and will continue today.  S/P
   another unit of pRBCs this AM.  Labs overall unchanged after first
   pheresis.  If continued no change over next couple days, may have to
   abandon plasmapheresis.
   -          cont stress dose steroids
   -          minimize medications
   -          plasma pheresis per heme
   -          plt goal > 10,000 or bleeding
   -          Continue to follow for evidence of bleeding
   -          Hematology Consult following
   -          Active T/S, goal HCT > 25
   # Bacteremia:  enterococcus growing in one BCx.  Possibly contaminant,
   though should continue treatment given critical illness.
   - cont vanc, f/u sensitivities
   # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture.. CT
   Chest with no clear infilitrate, c/w severe emphysema. Is relatively
   non compliant with scheduled BIPAP and has frequent desats to 80s.
   Pulm exam worsened today.
   -  q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Receiving stress dose steroids as above, with plan to taper back down
   to home dose of Prednisone 20mg daily eventually as tolerated.
   - BiPAP PRN
   - pulmonary toilet with OOB
   - diurese prn
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   Episode of SOB during pheresis could indicate MI, but CEs negative x 2.
   -            One more set of CEs
   -            ASA discontinued in the setting of thrombocytopenia
   -            continue metoprolol
    # FEN:  regular diet.  .
   # Prophylaxis:  Pneumoboots
    # Access: PICC
    # Code: full code, ICU consent in chart.
    # Communication: Patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2162-1-6**] 06:00 PM
   Pheresis Catheter - [**2162-1-8**] 04:44 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  - currently holding PPI [**12-21**] thrombocytopenia.
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-01-09 09:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 [**Last Name (un) 5343**] with severe COPD admitted initially for COPD flare with positive
   RSV infection. Improved, then developed new anemia/thrombocytopenia
   acutely 5 days ago. Ultimately diagnosed with TTP with schistocytes on
   smear, and started on plasmapheresis yesterday.
   24 Hour Events:
   Plasmapheresis.
   2 episodes of SOB/desaturation that improved with Lasix/BiPAP.
   TTE showed hyperdynamic, elevated WP estimate.
   ADAMTS13 sent.
   Transfused 1U low Hct.
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Vancomycin - [**2162-1-8**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2162-1-8**] 06:00 PM
   Other medications:
   Montelukast, Verapamil, Ca, Folate, ISS, Alendronate, Atrovent,
   Metoprolol, Xopenex, Solumedrol 60 IV q12.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Edema
   Respiratory: Dyspnea, Wheeze
   Integumentary (skin): skin tears
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2162-1-9**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 105 (84 - 126) bpm
   BP: 147/57(78) {97/44(54) - 181/91(116)} mmHg
   RR: 32 (20 - 41) insp/min
   SpO2: 90% on 3L + 50% Face Tent
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  1,663 mL
                                                                    246 mL
   PO:
                                                                     60 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,603 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                    690 mL
                                                                    640 mL
   Urine:
                                                                    690 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    973 mL
                                                                   -394 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 90%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: anicteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L base, Wheezes : bilateral, coarse +upper airway, Diminished: ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 1+, R foot slightly cooler than L
   Skin:  Warm, ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   24 K/uL
   122 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.0 mEq/L
   73 mg/dL
   106 mEq/L
   145 mEq/L
   23.3 %
   26.5 K/uL
        [image002.jpg]
                             [**2162-1-7**]  12:34 AM
                             [**2162-1-7**]  05:05 AM
                             [**2162-1-7**]  11:37 AM
                             [**2162-1-7**]  04:48 PM
                             [**2162-1-7**]  11:32 PM
                             [**2162-1-8**]  04:56 AM
                             [**2162-1-8**]  12:23 PM
                             [**2162-1-8**]  07:52 PM
                             [**2162-1-8**]  11:04 PM
                             [**2162-1-9**]  04:00 AM
   WBC
   17.7
   18.3
   18.5
   19.9
   21.5
   22.3
   26.5
   Hct
   23.5
   29.3
   30.3
   28.5
   26.7
   27.5
   26.0
   24.2
   23.3
   Plt
   65
   43
   39
   37
   33
   33
   38
   29
   24
   Cr
   1.1
   1.2
   1.2
   TropT
   0.06
   0.05
   Glucose
   115
   115
   122
   Other labs: PT / PTT / INR:12.9/28.4/1.1, CK / CKMB /
   Troponin-T:714/5/0.05, ALT / AST:38/78, Alk Phos / T Bili:70/2.5,
   Differential-Neuts:96.3 %, Band:4.0 %, Lymph:1.7 %, Mono:1.8 %, Eos:0.1
   %, D-dimer:514 ng/mL, Fibrinogen:300 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.4 g/dL, LDH:1080 IU/L, Ca++:9.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:4.6 mg/dL
   Imaging: CXR- elevated L HD
   Microbiology: BLood 2/18- enterococcus x 1. sensis pending.
   BlCx neg to date x 3 since then.
   Assessment and Plan
   1)Heme- low Hct, plats, thought to be TTP with progressive schistos on
   exam and no other explanation. Plasmapheresis per heme, scheduled again
   for today. Hct goal 25, Plat goal 10.
   2)Endo- on stress dose steroids, will hold on taper now due to slightly
   worsened resp status today but aim to drop tomorrow.
   3)Resp- severe COPD, sounds worse today compared with prior exams.
   Continue nebs/ steroids prn bipap, pulm toilet- OOB today.
   4)ID- 1 blood culture with enterococcus, likely line contaminant, on
   Vanc, follow up sensis. Check Vanc trough in AM.
   5)CV- ruling out for MI after SOB episodes yesterday, cont cardiac
   regimen
   6)FEN- full diet
   7)ICU- pneumoboots, PPI, full code.
   ICU Care
   Nutrition:
   Comments: full diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2162-1-6**] 06:00 PM
   Pheresis Catheter - [**2162-1-8**] 04:44 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with patient on rounds.
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2162-01-10 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: resp distress, thrombocytopenia, anemia
   24 Hour Events:
 PAN CULTURE - At [**2162-1-9**] 02:00 PM
 BLOOD CULTURED - At [**2162-1-9**] 02:00 PM
 SPUTUM CULTURE - At [**2162-1-9**] 04:30 PM
   -had plasmapheresis
   -send blood, urine and sputum cx as wbc count rising
   - 2U pRBC given on [**2162-1-10**]
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Vancomycin - [**2162-1-8**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-10**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 106 (86 - 107) bpm
   BP: 152/50(74) {116/50(67) - 154/82(99)} mmHg
   RR: 21 (21 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                    992 mL
                                                                     79 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                    242 mL
                                                                     79 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,550 mL
                                                                    180 mL
   Urine:
                                                                  1,550 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -558 mL
                                                                   -101 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   31 K/uL
   8.0 g/dL
   133 mg/dL
   1.1 mg/dL
   37 mEq/L
   3.6 mEq/L
   76 mg/dL
   109 mEq/L
   150 mEq/L
   22.3 %
   18.5 K/uL
        [image002.jpg]
                             [**2162-1-7**]  11:32 PM
                             [**2162-1-8**]  04:56 AM
                             [**2162-1-8**]  12:23 PM
                             [**2162-1-8**]  07:52 PM
                             [**2162-1-8**]  11:04 PM
                             [**2162-1-9**]  04:00 AM
                             [**2162-1-9**]  09:56 AM
                             [**2162-1-9**]  04:24 PM
                             [**2162-1-9**]  09:54 PM
                             [**2162-1-10**]  04:39 AM
   WBC
   21.5
   22.3
   26.5
   18.5
   Hct
   26.7
   27.5
   26.0
   24.2
   23.3
   23.8
   23.4
   22.3
   Plt
   33
   33
   38
   29
   24
   23
   22
   31
   Cr
   1.2
   1.2
   1.1
   TropT
   0.06
   0.05
   0.07
   Glucose
   115
   122
   133
   Other labs: PT / PTT / INR:12.9/28.1/1.1, CK / CKMB /
   Troponin-T:989/8/0.07, ALT / AST:38/78, Alk Phos / T Bili:70/2.5,
   Differential-Neuts:96.3 %, Band:4.0 %, Lymph:1.7 %, Mono:1.8 %, Eos:0.1
   %, D-dimer:514 ng/mL, Fibrinogen:300 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.4 g/dL, LDH:1080 IU/L, Ca++:9.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:5.1 mg/dL
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation, now with
   thrombocytopenia and anemia
   # Thrombocytopenia/Anemia:  Platelets continue to trend downward,
   despite increased dose steroids.  Possible offending agents
   discontinued.  Has growing number of schistocytes on peripheral smear.
   Thrombocytopenia from medications and separate hemolysis possible,
   though most concerning of the differential is TTP.  Given this concern,
   plasma pheresis was performed yesterday and will continue today.  S/P
   another unit of pRBCs this AM.  Labs overall unchanged after first
   pheresis.  If continued no change over next couple days, may have to
   abandon plasmapheresis.
   -          cont stress dose steroids
   -          minimize medications
   -          plasma pheresis per heme
   -          plt goal > 10,000 or bleeding
   -          Continue to follow for evidence of bleeding
   -          Hematology Consult following
   -          Active T/S, goal HCT > 25
   # Bacteremia:  enterococcus growing in one BCx.  Possibly contaminant,
   though should continue treatment given critical illness.
   - cont vanc, f/u sensitivities
   # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture.. CT
   Chest with no clear infilitrate, c/w severe emphysema. Is relatively
   non compliant with scheduled BIPAP and has frequent desats to 80s.
   Pulm exam worsened today.
   -  q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Receiving stress dose steroids as above, with plan to taper back down
   to home dose of Prednisone 20mg daily eventually as tolerated.
   - BiPAP PRN
   - pulmonary toilet with OOB
   - diurese prn
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   Episode of SOB during pheresis could indicate MI, but CEs negative x 2.
   -            One more set of CEs
   -            ASA discontinued in the setting of thrombocytopenia
   -            continue metoprolol
    # FEN:  regular diet.  .
   # Prophylaxis:  Pneumoboots
    # Access: PICC
    # Code: full code, ICU consent in chart.
    # Communication: Patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2162-1-6**] 06:00 PM
   Pheresis Catheter - [**2162-1-8**] 04:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-01-10 11:06:00 Physician Attending Progress Note
Chief Complaint: COPD exacerbation, TTP
   HPI:
   24 Hour Events:
   Recultured for rising WBC
   had plasmapheresis
   Transfused another 1+U PRBC
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Vancomycin - [**2162-1-10**] 08:37 AM
   Infusions:
   Other ICU medications:
   Other medications:
   montelukast, verapamil, CaCO3, colace, ISS, Alendronate, Metoprolol
   12.5 tid, Xopenex, Solumedrol 60 IV q12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-10**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 89 (77 - 113) bpm
   BP: 153/65(83) {116/50(67) - 161/82(99)} mmHg
   RR: 25 (19 - 35) insp/min
   SpO2: 95% on 3LNC and 50% Face Tent
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                    992 mL
                                                                    720 mL
   PO:
                                                                    400 mL
           TF:
   IVF:
                                                                    242 mL
                                                                    309 mL
   Blood products:
                                                                    350 mL
                                                                    411 mL
   Total out:
                                                                  1,550 mL
                                                                    315 mL
   Urine:
                                                                  1,550 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -558 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress, No(t) Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, ecchymoses, hematoma
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   31 K/uL
   133 mg/dL
   1.1 mg/dL
   37 mEq/L
   3.6 mEq/L
   76 mg/dL
   109 mEq/L
   150 mEq/L
   22.3 %
   18.5 K/uL
        [image002.jpg]
                             [**2162-1-7**]  11:32 PM
                             [**2162-1-8**]  04:56 AM
                             [**2162-1-8**]  12:23 PM
                             [**2162-1-8**]  07:52 PM
                             [**2162-1-8**]  11:04 PM
                             [**2162-1-9**]  04:00 AM
                             [**2162-1-9**]  09:56 AM
                             [**2162-1-9**]  04:24 PM
                             [**2162-1-9**]  09:54 PM
                             [**2162-1-10**]  04:39 AM
   WBC
   21.5
   22.3
   26.5
   18.5
   Hct
   26.7
   27.5
   26.0
   24.2
   23.3
   23.8
   23.4
   22.3
   Plt
   33
   33
   38
   29
   24
   23
   22
   31
   Cr
   1.2
   1.2
   1.1
   TropT
   0.06
   0.05
   0.07
   Glucose
   115
   122
   133
   Other labs: PT / PTT / INR:12.9/28.1/1.1, CK / CKMB /
   Troponin-T:989/8/0.07, ALT / AST:38/78, Alk Phos / T Bili:70/2.5,
   Differential-Neuts:96.3 %, Band:4.0 %, Lymph:1.7 %, Mono:1.8 %, Eos:0.1
   %, D-dimer:514 ng/mL, Fibrinogen:300 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.4 g/dL, LDH:1080 IU/L, Ca++:9.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:5.1 mg/dL
   Fluid analysis / Other labs: Vanc 14.
   Microbiology: blood cultures  [**1-6**]- E.Faecium
   Bld Cx NGTD since then
   Urine,sputum pending
   Assessment and Plan
   1)Heme- low Hct, plats, thought to be TTP with progressive schistos on
   exam and no other explanation. Plasmapheresis per heme, having again
   today. Hct goal 25, Plat goal 10. Check CK, Bili, LDH.
   2)Endo- on stress dose steroids, will begin to taper if okay with
   heme/onc.
   3)Resp- severe COPD. Continue nebs/ steroids, prn bipap, pulm toilet-
   OOB today.
   4)ID- Rising WBC. Had 1 blood culture with enterococcus, likely line
   contaminant, continue Vanc. and f/u other cultures.
   5)CV- ruled out for MI after SOB episodes yesterday, cont cardiac
   regimen
   6)FEN- full diet, hypernatremia: start D5W.
   7)ICU- pneumoboots, PPI, full code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2162-1-6**] 06:00 PM
   Pheresis Catheter - [**2162-1-8**] 04:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2162-01-11 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Plasmapheresis on Sunday
   - 1 unit PRBC
s transfused with hct 22.3
  24.4
   - Solumedrol switched to prednisone 60 mg daily
   - Patient received 1L D5W for hypernatremia: Na 150 -> 136  -> 145
   Allergies:
   Albuterol
   Last dose of Antibiotics:
   Vancomycin - [**2162-1-10**] 08:37 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-11**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 78 (63 - 113) bpm
   BP: 151/55(79) {121/42(62) - 165/67(90)} mmHg
   RR: 20 (19 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
                  Total In:
                                                                  2,353 mL
                  PO:
                                                                    620 mL
                  TF:
   IVF:
                                                                  1,321 mL
   Blood products:
                                                                    411 mL
   Total out:
                                                                    785 mL
                                                                    230 mL
   Urine:
                                                                    785 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,568 mL
                                                                   -230 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 100%
   ABG: ///39/
   Physical Examination
   General Appearance: Thin, elderly, fatigued and ill-appearing with
   purse-lipped breathing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, sclerae anicteric, dry mucous
   membranes
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular:  RRR (PMI Normal), (S1: Normal), (S2: Normal)
   Respiratory / Chest:  tachypneic, + accessory muscle use,  decreased
   breath sounds, scattered rhonchi
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, multiple ecchymoses over anterior chest and all
   extremities
   Neurologic: A&Ox3
   Labs / Radiology
   32 K/uL
   9.0 g/dL
   79 mg/dL
   1.0 mg/dL
   39 mEq/L
   3.6 mEq/L
   73 mg/dL
   103 mEq/L
   146 mEq/L
   25.1 %
   20.3 K/uL
        [image002.jpg] Vanc level 24
                             [**2162-1-8**]  12:23 PM
                             [**2162-1-8**]  07:52 PM
                             [**2162-1-8**]  11:04 PM
                             [**2162-1-9**]  04:00 AM
                             [**2162-1-9**]  09:56 AM
                             [**2162-1-9**]  04:24 PM
                             [**2162-1-9**]  09:54 PM
                             [**2162-1-10**]  04:39 AM
                             [**2162-1-10**]  05:56 PM
                             [**2162-1-11**]  03:31 AM
   WBC
   26.5
   18.5
   20.3
   Hct
   26.0
   24.2
   23.3
   23.8
   23.4
   22.3
   24.4
   25.1
   Plt
   38
   29
   24
   23
   22
   31
   32
   Cr
   1.2
   1.1
   1.0
   TropT
   0.06
   0.05
   0.07
   Glucose
   122
   133
   79
   Other labs: PT / PTT / INR:12.2/26.0/1.0, CK / CKMB /
   Troponin-T:984/8/0.07, ALT / AST:38/78, Alk Phos / T Bili:70/2.4,
   Differential-Neuts:96.3 %, Band:4.0 %, Lymph:1.7 %, Mono:1.8 %, Eos:0.1
   %, D-dimer:514 ng/mL, Fibrinogen:300 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.4 g/dL, LDH:1153 IU/L, Ca++:9.6 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.8 mg/dL
   HIT antibody negative x 2
   Anti-platelet ab
 negative
   ADAMTS13 ACTIVITY AND INHIBITOR - pending
   Assessment and Plan
   74 yo F with marked COPD admitted with COPD exacerbation, now with
   thrombocytopenia and anemia
   # Thrombocytopenia:  Plasmapheresis day #4 for ? TTP, with marginal
   improvement in platelet count to date.  Alternate explanations include
   drug-induced thrombocytopenia.
   -          Literature review also reveals reported cases of
   drug-induced thrombocytopenia due to atorvastatin, fluoroquinolones,
   TMP/SMX  -- > all potentially offending agents have been discontinued.
   -          f/u ADAMTS13 inhibitor
   -          Continue to follow for evidence of bleeding
   -          Q12 hour platelet counts
   -          Hematology Consult following
   # Anemia:  Hematocrit has trended down from 41 to 22, since admission.
   Haptoglobin <20 and elevated LDH suggestive of hemolysis.  Rare
   schistocytes seen on peripheral smear, as per Hematology consult.
   Coomb
s antibody negative.   Abdominal wall hematoma is also potential
   source for blood loss.
   -            q12 hour hematocrits
   -            serial peripheral blood smears, LDH
   -            active type & screen; crossmatch 2 units
   -            transfuse to keep hct >25
   # Bacteremia:  Vancomycin-sensitive enterococcus faecalis growing in
   one culture from [**1-6**].    No clear source.
   - f/u surveillance blood cultures
   - cont vanc for 14 day course (day 1 = [**1-7**])
   - reduce vancomycin dose to 750 mg IV q24 as trough is supratherapeutic
   # COPD exacerbation/RSV bronchiolitis  - +RSV on viral culture.. CT
   Chest with no clear infilitrate, c/w severe emphysema. Continues to
   require intermittent bipap.
   - q2-4 hour standing xopenex and atrovent nebs
   - Advair
   - Continue steroid taper to Prednisone 40 mg daily, with plan to taper
   back down to home dose of Prednisone 20mg daily
   - cont scheduled pm BIPAP and intermittent BiPAP PRN
   - pulmonary toilet
   # Hypernatremia:  Onset occurred with initiation of plasmapheresis.
   - check serum sodium q12 hours
   - D5W PRN serum Na >145
   - avoid diuresis if able
   # Coronary Artery Disease s/p STEMI related to coronary vasospasm:
   Episode of SOB during pheresis could indicate MI, but CEs negative x 3.
   -            ASA discontinued in the setting of thrombocytopenia
   -            continue metoprolol
    # FEN:  regular diet.
   # Prophylaxis:
   -            Unable to give SC heparin due to development of abdominal
   wall hematoma.  Patient is unable to tolerate pneumoboots secondary to
   pain and severe ecchymoses.
   -            DVT ppx:  TEDS and OOB to chair.
   -            No GI prophylaxis indicated.
    # Access: PICC
    # Code: full code, ICU consent in chart.
    # Communication: Patient
   ICU Care
   Nutrition: PO diet.
   Glycemic Control:
   Lines:
   PICC Line - [**2162-1-6**] 06:00 PM
   Pheresis Catheter - [**2162-1-8**] 04:44 PM
   Prophylaxis:
   DVT:   TEDS, OOB
   Stress ulcer:   Not indicated.
   VAP:
   Comments:
   Communication:  Comments:
   Code status:   Full code.
   Disposition:  Will discuss plans for floor transfer with Hematology and
   Pheresis teams.

2162-01-11 11:48:00 Physician Attending Progress Note
Chief Complaint: COPD, RSV, TTP
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Plasmapheresis
   Got PRBC replacement: rigors, transfusion reactn w/u sent
   Pred switched to 60
   Hypernatremia
   History obtained from Patient
   Allergies:
   Albuterol
   uncomfortable t
   Last dose of Antibiotics:
   Vancomycin - [**2162-1-10**] 08:37 AM
   Infusions:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-11**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 73 (63 - 94) bpm
   BP: 130/52(70) {121/42(62) - 165/73(87)} mmHg
   RR: 24 (19 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,694 mL
                                                                    115 mL
   PO:
                                                                    620 mL
             TF:
   IVF:
                                                                  1,662 mL
                                                                    115 mL
   Blood products:
                                                                    411 mL
   Total out:
                                                                    785 mL
                                                                    355 mL
   Urine:
                                                                    785 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,909 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 98%
   ABG: ///39/
   Physical Examination
   General Appearance: No acute distress, No(t) Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, ecchymoses, hematoma
   Extremities: 4+ peripheral edema
   Skin:  Warm, ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   32 K/uL
   79 mg/dL
   1.0 mg/dL
   39 mEq/L
   3.6 mEq/L
   73 mg/dL
   103 mEq/L
   146 mEq/L
   25.1 %
   20.3 K/uL
        [image002.jpg]
                             [**2162-1-8**]  12:23 PM
                             [**2162-1-8**]  07:52 PM
                             [**2162-1-8**]  11:04 PM
                             [**2162-1-9**]  04:00 AM
                             [**2162-1-9**]  09:56 AM
                             [**2162-1-9**]  04:24 PM
                             [**2162-1-9**]  09:54 PM
                             [**2162-1-10**]  04:39 AM
                             [**2162-1-10**]  05:56 PM
                             [**2162-1-11**]  03:31 AM
   WBC
   26.5
   18.5
   20.3
   Hct
   26.0
   24.2
   23.3
   23.8
   23.4
   22.3
   24.4
   25.1
   Plt
   38
   29
   24
   23
   22
   31
   32
   Cr
   1.2
   1.1
   1.0
   TropT
   0.06
   0.05
   0.07
   Glucose
   122
   133
   79
   Other labs: PT / PTT / INR:12.2/26.0/1.0, CK / CKMB /
   Troponin-T:984/8/0.07, ALT / AST:38/78, Alk Phos / T Bili:70/2.4,
   Differential-Neuts:96.3 %, Band:4.0 %, Lymph:1.7 %, Mono:1.8 %, Eos:0.1
   %, D-dimer:514 ng/mL, Fibrinogen:300 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.4 g/dL, LDH:1153 IU/L, Ca++:9.6 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.8 mg/dL
   Fluid analysis / Other labs: HIT neg
   APA neg
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE/CHRONIC
 THROMBOCYTOPENIA, ACUTE/TTP
 TACHYCARDIA, OTHER
 ANXIETY
   74 y/o F with COPD exacerbation with RSV, TTP on plasmapheresis day 4.
   She has tolerated plasmapharesis but platelets are not yet improving
   and still signs of hemolysis on smear. Received one unit of PRBC for
   anemia. HIT ab negative x 2. Continues to be on Vanc (by level) for
   enterococcus bacteremia.
   ID: Vanc for enterococcus fecalis in blood cxs, plan 14 days from [**1-6**].
   Check level.
   Resp: wean steroids, nightly bipap. On Advair. Start Spiriva on d/c.
   TTP: follow periph smear and Adamts13. Follow hct and plt [**Hospital1 **]. No
   improvement in platelet count. d/w heme. Check retic count. Follow
   bilis.
   Hypernatremia: improving, follow
   Proph: Not on any DVT ppx with normal coags and severe ecchymosis from
   thrombocytopenia, unable to put boots. High risk. Try teds and OOB.
   CAD: ASA held, on beta blocker
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines: PICC Line - [**2162-1-6**] 06:00 PM
   Pheresis Catheter - [**2162-1-8**] 04:44 PM
   Prophylaxis: DVT: (none, see note), Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full, Disposition : ICU
   Total time spent: 35